2135-07-16 07:17:00 Physician Resident Progress Note
Chief Complaint: Mr. [**Known lastname 8404**] is a 30 year old gentleman with biliary
   atresia s/p liver transplant (25 years ago) complicated by recurrent
   cirrhosis, hepato-pulmonary syndrome, porto-pulmonary hypertension,
   post-infectious GN, nephrotic syndrome and asthma admitted  with
   peritonitis s/p ex-lap now transferred to the MICU for hypoxic
   respiratory distress.
   24 Hour Events:
   Intubated for increased work of breathing in setting of hypoxic
   respiratory failure. Improved PaO2 overnight while intubated.
   HD cath placed - CVVH started to take off fluid but stopped because
   filter clotted off this AM.
   CT head for anisocoria- no acute pathology
   CT torso - new R sided effusion, new R sided opacities, old L sided
   effusion. In context of worsening clinical status and leukocytosis,
   started on cefepime, vanco, cipro.
 NON-INVASIVE VENTILATION - START [**2135-7-15**] 06:13 PM
 NON-INVASIVE VENTILATION - STOP [**2135-7-15**] 07:00 PM
 INVASIVE VENTILATION - START [**2135-7-15**] 07:00 PM
 PICC LINE - START [**2135-7-15**] 07:41 PM
 DIALYSIS CATHETER - START [**2135-7-15**] 09:13 PM
 ARTERIAL LINE - START [**2135-7-15**] 10:11 PM
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2135-7-16**] 01:54 AM
   Vancomycin - [**2135-7-16**] 02:30 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Fentanyl - 300 mcg/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-7-15**] 09:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-7-16**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.5
   HR: 92 (85 - 111) bpm
   BP: 119/72(87) {113/69(83) - 141/86(104)} mmHg
   RR: 19 (13 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 22 (18 - 22)mmHg
   Total In:
                                                                  1,676 mL
                                                                  1,298 mL
   PO:
   TF:
   IVF:
                                                                    276 mL
                                                                  1,088 mL
   Blood products:
                                                                    400 mL
                                                                    150 mL
   Total out:
                                                                    270 mL
                                                                  1,227 mL
   Urine:
                                                                    270 mL
                                                                    179 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,406 mL
                                                                     71 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 98%
   ABG: 7.29/45/113/20/-4
   Ve: 7.8 L/min
   PaO2 / FiO2: 283
   Physical Examination
   Gen: Intubated, sedated, not verbally rousable.
   HEENT: Minimal anisocoria.
   CV: Regular rate and rhythm,.
   Pulm: Bilateral rales on anterior exam.
   Abd: Hypoechoic, moderately distended in thin patient.
   Ext: 2+ pitting edema bilaterally
   Labs / Radiology
   147 K/uL
   7.6 g/dL
   109 mg/dL
   3.6 mg/dL
   20 mEq/L
   4.5 mEq/L
   79 mg/dL
   107 mEq/L
   136 mEq/L
   24.5 %
   10.8 K/uL
        [image002.jpg]
                             [**2135-7-15**]  06:31 PM
                             [**2135-7-15**]  10:32 PM
                             [**2135-7-16**]  04:00 AM
                             [**2135-7-16**]  04:18 AM
                             [**2135-7-16**]  06:31 AM
   WBC
   12.4
   10.8
   Hct
   26.7
   24.5
   Plt
   178
   147
   Cr
   3.9
   3.6
   TCO2
   22
   24
   23
   Glucose
   126
   111
   109
   Other labs: PT / PTT / INR:17.4/41.4/1.6, ALT / AST:15/31, Alk Phos / T
   Bili:261/1.9, Differential-Neuts:90.4 %, Lymph:5.2 %, Mono:2.2 %,
   Eos:1.9 %, Lactic Acid:1.0 mmol/L, Albumin:2.7 g/dL, LDH:208 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:6.4 mg/dL
   Imaging: PRELIM REPORTS
   CT head - No hemorrhage or edema
   CT chest - As on radiograph, large left effusion w/ resulting LLL and
   lingula collapse. Right lung extensive airspace opacities most
   suggestive of pulmonary edema, as etiology but infectious process not
   excluded. Similar abd/pelv findings of anasarca, ascites, irregular
   liver contour suggesting of chronic disease, and splenomegaly.
   Microbiology: [**7-16**] Sputum - no microorganisms seen
   [**7-14**] Urine cx - <[**Numeric Identifier **]
   [**7-12**] Peritoneal fluid - no growth
   Assessment and Plan
   Mr. [**Known lastname 8404**] is a 30 year old gentleman with biliary atresia s/p liver
   transplant (25 years ago) complicated by recurrent cirrhosis,
   hepato-pulmonary syndrome, porto-pulmonary hypertension,
   post-infectious GN, nephrotic syndrome and asthma admitted peritonitis
   s/p ex-lap now transferred to the MICU for hypoxic respiratory distress
   and requiring intubation last night.
   1) HYPOXIC RESPIRATORY DISTRESS: Multiple reasons for worsening hypoxia
   and increased work of breathing in setting of chronic hypoxia with AA
   gradient.
   *Baseline low PaO2 of 70s likely due to impaired VQ mm due to known
   stable L pleural effusion and from atelectasis from ascites.  Also
   shunt from known hepatopulmonary syndrome.
   *Worsening hypoxia with new R-sided opacities and new R pleural
   effusion leading to VQ mismatch, suspicious for PNA vs/in addition to
   increased pulmonary edema  from volume repletion in the setting of
   acute on sub-acute renal failure and oliguria. Original concern for PE
   without strong clinical evidence. Final read on LENIS pending. Started
   on vanc.cipro/cefepime due to new opacities.  In order to identify
   possible organisms, a bronchoscopy today.
   *Given concern for volume overload in setting of renal failure, CVVH
   was started overnight. Due to clotting off of filter, HD will be
   started this AM, with goal of net negative fluid balance.
   *His PaO2 has improved overnight on intubation. Last PaO2 was 117, so
   we can reduce FiO2 to 30 to reduce the risk of oxygen toxicity.
   - Wean FiO2 as tolerated.
   - HD this AM.
   - Continue vanc/cefepime/cipro until cultures return. Check renal
   dosing.
   - Check bladder pressure to rule out contribution to increased
   abdominal pressure with subsequent atelectasis/VQ mismatch.
   - Defer PE work-up or CTA for now. Follow-up final read on LENIs, tech
   note was negative for occlusive thrombus.
   - Repeat ABG's for vent or clinical changes
   2) ACIDOSIS: Mixed metabolic and respiratory acidosis with a delta gap
   0.75.  Metabolic acidosis may be multifactorial but likely includes
   anion gap from renal failure. [**Doctor Last Name 6492**] formula predicts PaCO2 of 38, his
   is 45, suggesting that he likely has compensatory hypercarbia and an
   additional respiratory hypercarbia, so RR was appropriately increased
   this AM from 20 to 24.
   - Recheck lytes and ABG
   - Check lactate.
   3) CIRRHOSIS: Patient with history of biliary atresia s/p liver
   transplant (age 4) complicated by chronic rejection. Currently on
   transplant list. -Was on cipro for SBP prophylaxis, now dosed for VAP.
   - Continue lactulose.
   - Continue prograf. Check prograf level tomorrow.
   4) RENAL FAILURE: Patient with history of post-strep GN now with acute
   on sub-acute renal failure likely secondary to ATN versus HRS type 1.
   CVVH last night but stopped due to filter clot, so HD will start this
   AM.
   - Start HD this AM.
   - Continue HRS therapy with albumin 1g/kg, midodrine, octreotide.
   - Trend creatinine, UOP.
   .
   5) PLEURAL EFFUSION: hepatohydrothorax given transudate on most recent
   thoracentesis +/- volume load in setting in renal failure. Pending HD,
   consider therapeutic thoracentesis if needed to optimize respiratory
   mechanics.
   - Continue HD.
   6) ANEMIA: Patient with intermitent transfusion requirement, with last
   transfusion requirement on [**7-14**] (1 unit PRBC).  Likely has chronic
   anemia from liver and renal failure. Hct stable this AM.
   - Guaiac all stools
   - Trend hct Q12H, transfuse hct<21.
   7) ANISOCORIA: Non-contrast CTH without acute pathology and diminished
   asymmetry of pupils on exam this AM. Unclear etiology; likely drug
   effect given improvement this AM and no findings on CT.
   -Continue to follow.
   8) FEN: made NPO given respiratory distress. Nutrition consulted.
   -Start tube feeds today and follow up nutrition recommendations.
   -Continue ISS for glycemic control.
   9) PPx: Heparin SQ and PPI
   10) ACCESS
   -PICC Line - [**2135-7-15**] 07:41 PM
   -20 Gauge - [**2135-7-15**] 07:41 PM
   -Dialysis Catheter - [**2135-7-15**] 09:13 PM
   -Arterial Line - [**2135-7-15**] 10:11 PM
   11) CODE: Full (confirmed)
   12) CONTACT: Father [**Name (NI) 8405**] [**Name (NI) 8404**] [**Telephone/Fax (1) 8406**]
   13) DISPOSITION: ICU level of care.
   ICU Care
   Nutrition:
   Comments: NPO, nutrition consulted for tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2135-7-15**] 07:41 PM
   20 Gauge - [**2135-7-15**] 07:41 PM
   Dialysis Catheter - [**2135-7-15**] 09:13 PM
   Arterial Line - [**2135-7-15**] 10:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Father [**Name (NI) 8405**] [**Name (NI) 8404**] [**Telephone/Fax (1) 8406**]
   Code status: Full code
   Disposition:ICU

2135-07-16 09:16:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Intubated last PM, remains intubated, mechanically ventilated.
   Sedated.
   CVVH initiated last PM, tolerated, but experienced technical
   difficulties with dialysis machine.
   Antimicrobials initiated last PM for concern of infection/sepsis.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2135-7-16**] 01:54 AM
   Vancomycin - [**2135-7-16**] 02:30 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-7-15**] 09:09 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2135-7-16**] 09:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 93 (85 - 111) bpm
   BP: 118/71(85) {113/69(83) - 141/86(104)} mmHg
   RR: 24 (13 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 20 (18 - 22)mmHg
   Total In:
                                                                  1,676 mL
                                                                  1,617 mL
   PO:
   TF:
   IVF:
                                                                    276 mL
                                                                  1,407 mL
   Blood products:
                                                                    400 mL
                                                                    150 mL
   Total out:
                                                                    270 mL
                                                                  1,495 mL
   Urine:
                                                                    270 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,406 mL
                                                                    122 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.29/45/113/20/-4
   Ve: 8.8 L/min
   PaO2 / FiO2: 283
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, dysconjugate gaze
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.6 g/dL
   147 K/uL
   109 mg/dL
   3.6 mg/dL
   20 mEq/L
   4.5 mEq/L
   79 mg/dL
   107 mEq/L
   136 mEq/L
   24.5 %
   10.8 K/uL
        [image002.jpg]
                             [**2135-7-15**]  06:31 PM
                             [**2135-7-15**]  10:32 PM
                             [**2135-7-16**]  04:00 AM
                             [**2135-7-16**]  04:18 AM
                             [**2135-7-16**]  06:31 AM
   WBC
   12.4
   10.8
   Hct
   26.7
   24.5
   Plt
   178
   147
   Cr
   3.9
   3.6
   TCO2
   22
   24
   23
   Glucose
   126
   111
   109
   Other labs: PT / PTT / INR:17.4/41.4/1.6, ALT / AST:15/31, Alk Phos / T
   Bili:261/1.9, Differential-Neuts:90.4 %, Lymph:5.2 %, Mono:2.2 %,
   Eos:1.9 %, Lactic Acid:1.0 mmol/L, Albumin:2.7 g/dL, LDH:208 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
   30 yom, s/p liver transplant (failed due to rejection) now with acute
   renal failure and respiratory failure.
   RESPRIATORY FAILURE -- multifactorial, including acute volume overload
   in setting of acute on chronic renal failure, on backgroudn of
   pulmonary HTN, portopulmonary (possible heptaopulmonary with shunt),
   and atalectasis due to abd distension.  Although CXR and Chest CT may
   reflect pulmonary edema and volume overload, need to consider
   infection/pneumonia in immunocompromised patient.  Plan continue
   dialysis for net diuresis.  Bronchoscopy to assess for pneumonia.
   Continue mechanical ventilation, monitor ABG, SaO2.
   PULMONARY INFILTRATES -- may be due to pulmonary edema, but consider
   pneumonia.  Plan bronchsocpy to assess for infection, including
   opportunistic infection.  Empirical antimicrobials.
   RENAL FAILURE, ACUTE -- ATN versus HRS type1.  Rx Midodrine and
   Octreotide, Albumin challenge as per Liver and Renal.  Attempt to
   resume CVVH, but may require conventional hemodialysis.
   FLUID -- net volume overload.  Desire net negative fluid balance.
   ACIDOSIS -- attributed to actue renal failure and lactic acidosis.
   Monitor on dialysis.
   LIVER FAILURE -- currently listed for liver transplant.  Lactulose and
   Cipro for prophylaxis
   ANEMIA -- attributed to renal failure, and possible contribution of
   medications.
   ANASACORIA --  stable.  Head CT WNL.  Monitor.
   NUTRITIONAL SUPPORT -- initiate TF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2135-7-15**] 07:41 PM
   20 Gauge - [**2135-7-15**] 07:41 PM
   Dialysis Catheter - [**2135-7-15**] 09:13 PM
   Arterial Line - [**2135-7-15**] 10:11 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2135-07-17 06:23:00 Physician Resident Progress Note
Chief Complaint: 30 year old male with biliary atresia s/p liver
   transplant in infancy,complicated by rercurrent cirrhosis,
   hepatopulmonary syndrome, portopulmonary hypertension, post infectious
   glomerulonephritis, nephrotic syndrome, and astha, admitted
   withperitonitis, s/p ex-lap, now transferred to the MICU for hypoxic
   respiratory distress.
   24 Hour Events:
 BRONCHOSCOPY - At [**2135-7-16**] 01:45 PM
   HD was attempted with goal to remove 3L however pt dropped BPs to
   systolic of 90s after 1.2 L. Pt got albumin, 1 U PRBC with
   normalization of BP to 110. Switched from HD to CRRT with heparin
   anticoagulation. and continued to produce mininmum urine through the
   day.
   Poor culture data obtained from suctioning thus pt had bronchoscopy for
   culture specimens with improved breath sounds post bronchoscopy.
   Tube feeds were held given high resideulas to 50cc (flow rate 10cc/hr)
   Respiratory wise weaned from FI02 50% to 30%  becoming hypoxic
   7.30/41/79/21 to 7.31/41/65/22.
   FI02 increased to 40% with improvement of his 02 sat 7.29/40/96/20 with
   no further
   Vent changes (became slightly more acidemic).
   What are goals?
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-7-16**] 02:30 AM
   Ciprofloxacin - [**2135-7-16**] 10:00 AM
   Cefipime - [**2135-7-16**] 04:00 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Heparin Sodium - 300 units/hour
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-7-16**] 08:55 PM
   Heparin Sodium (Prophylaxis) - [**2135-7-17**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-7-17**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.1
C (97
   HR: 84 (78 - 96) bpm
   BP: 112/60(78) {89/49(66) - 141/86(275)} mmHg
   RR: 25 (22 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 18 (12 - 27)mmHg
   Total In:
                                                                  3,072 mL
                                                                    461 mL
   PO:
   TF:
                                                                     78 mL
                                                                     61 mL
   IVF:
                                                                  2,364 mL
                                                                    365 mL
   Blood products:
                                                                    450 mL
   Total out:
                                                                  3,476 mL
                                                                    755 mL
   Urine:
                                                                    313 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -404 mL
                                                                   -294 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 32 cmH2O
   Plateau: 25 cmH2O
   Compliance: 20 cmH2O/mL
   SpO2: 98%
   ABG: 7.29/40/95.[**Numeric Identifier 253**]/19/-6
   Ve: 9.1 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Intubated, sedated
   RRR, no MRG
   Lungs, mild crackles through anterior chest
   Labs / Radiology
   143 K/uL
   8.6 g/dL
   91 mg/dL
   3.2 mg/dL
   19 mEq/L
   4.6 mEq/L
   59 mg/dL
   111 mEq/L
   138 mEq/L
   26.9 %
   9.9 K/uL
        [image002.jpg]
                             [**2135-7-16**]  04:00 AM
                             [**2135-7-16**]  04:18 AM
                             [**2135-7-16**]  06:31 AM
                             [**2135-7-16**]  04:32 PM
                             [**2135-7-16**]  04:48 PM
                             [**2135-7-16**]  07:48 PM
                             [**2135-7-16**]  09:58 PM
                             [**2135-7-16**]  10:11 PM
                             [**2135-7-17**]  04:02 AM
                             [**2135-7-17**]  04:19 AM
   WBC
   10.8
   9.2
   9.9
   Hct
   24.5
   26.7
   28.0
   26.9
   Plt
   147
   147
   143
   Cr
   3.6
   3.8
   3.2
   TCO2
   24
   23
   21
   22
   22
   20
   Glucose
   111
   109
   73
   91
   Other labs: PT / PTT / INR:18.4/83.4/1.7, ALT / AST:[**10-18**], Alk Phos / T
   Bili:224/2.8, Differential-Neuts:86.6 %, Lymph:6.8 %, Mono:1.1 %,
   Eos:5.4 %, Lactic Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:208 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Imaging: CXR today.
   Microbiology: GRAM STAIN (Final [**2135-7-16**]): 1+PNS. No microorganisms.
         NO MICROORGANISMS SEEN.
   Respiratory, legionella, PCP, [**Name10 (NameIs) 609**], MCV cx pending.
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 LIVER FUNCTION ABNORMALITIES
   Assessment and Plan
   Mr. [**Known lastname 8404**] is a 30 year old gentleman with biliary atresia s/p liver
   transplant (25 years ago) complicated by recurrent cirrhosis,
   hepato-pulmonary syndrome, porto-pulmonary hypertension,
   post-infectious GN, nephrotic syndrome and asthma admitted peritonitis
   s/p ex-lap now transferred to the MICU for hypoxic respiratory distress
   and requiring intubation last night.
   1) HYPOXIC RESPIRATORY DISTRESS: Multiple reasons for worsening hypoxia
   and increased work of breathing in setting of chronic hypoxia with AA
   gradient.
   *Baseline low PaO2 of 70s likely due to impaired VQ mm due to known
   stable L pleural effusion and from atelectasis from ascites.  Also
   shunt from known hepatopulmonary syndrome.
   *Worsening hypoxia with new R-sided opacities and new R pleural
   effusion leading to VQ mismatch, suspicious for PNA vs/in addition to
   increased pulmonary edema  from volume repletion in the setting of
   acute on sub-acute renal failure and oliguria. Original concern for PE
   without strong clinical evidence. Final read on LENIS pending. Started
   on vanc.cipro/cefepime due to new opacities.  In order to identify
   possible organisms, a bronchoscopy today.
   *Given concern for volume overload in setting of renal failure, CVVH
   was started overnight. Due to clotting off of filter, HD will be
   started this AM, with goal of net negative fluid balance.
   *His PaO2 has improved overnight on intubation. Last PaO2 was 117, so
   we can reduce FiO2 to 30 to reduce the risk of oxygen toxicity.
   - Wean FiO2 as tolerated.
   - HD this AM.
   - Continue vanc/cefepime/cipro until cultures return. Check renal
   dosing.
   - Check bladder pressure to rule out contribution to increased
   abdominal pressure with subsequent atelectasis/VQ mismatch.
   - Defer PE work-up or CTA for now. Follow-up final read on LENIs, tech
   note was negative for occlusive thrombus.
   - Repeat ABG's for vent or clinical changes
   2) ACIDOSIS: Mixed metabolic and respiratory acidosis with a delta gap
   0.75.  Metabolic acidosis may be multifactorial but likely includes
   anion gap from renal failure. [**Doctor Last Name 6492**] formula predicts PaCO2 of 38, his
   is 45, suggesting that he likely has compensatory hypercarbia and an
   additional respiratory hypercarbia, so RR was appropriately increased
   this AM from 20 to 24.
   - Recheck lytes and ABG
   - Check lactate.
   3) CIRRHOSIS: Patient with history of biliary atresia s/p liver
   transplant (age 4) complicated by chronic rejection. Currently on
   transplant list. -Was on cipro for SBP prophylaxis, now dosed for VAP.
   - Continue lactulose.
   - Continue prograf. Check prograf level tomorrow.
   4) RENAL FAILURE: Patient with history of post-strep GN now with acute
   on sub-acute renal failure likely secondary to ATN versus HRS type 1.
   CVVH last night but stopped due to filter clot, so HD will start this
   AM.
   - Start HD this AM.
   - Continue HRS therapy with albumin 1g/kg, midodrine, octreotide.
   - Trend creatinine, UOP.
   .
   5) PLEURAL EFFUSION: hepatohydrothorax given transudate on most recent
   thoracentesis +/- volume load in setting in renal failure. Pending HD,
   consider therapeutic thoracentesis if needed to optimize respiratory
   mechanics.
   - Continue HD.
   6) ANEMIA: Patient with intermitent transfusion requirement, with last
   transfusion requirement on [**7-14**] (1 unit PRBC).  Likely has chronic
   anemia from liver and renal failure. Hct stable this AM.
   - Guaiac all stools
   - Trend hct Q12H, transfuse hct<21.
   7) ANISOCORIA: Non-contrast CTH without acute pathology and diminished
   asymmetry of pupils on exam this AM. Unclear etiology; likely drug
   effect given improvement this AM and no findings on CT.
   -Continue to follow.
   8) FEN: made NPO given respiratory distress. Nutrition consulted.
   -Start tube feeds today and follow up nutrition recommendations.
   -Continue ISS for glycemic control.
   9) PPx: Heparin SQ and PPI
   10) ACCESS
   -PICC Line - [**2135-7-15**] 07:41 PM
   -20 Gauge - [**2135-7-15**] 07:41 PM
   -Dialysis Catheter - [**2135-7-15**] 09:13 PM
   -Arterial Line - [**2135-7-15**] 10:11 PM
   11) CODE: Full (confirmed)
   12) CONTACT: Father [**Name (NI) 8405**] [**Name (NI) 8404**] [**Telephone/Fax (1) 8406**]
   13) DISPOSITION: ICU level of care.
   ICU Care
   Nutrition:
   Comments: NPO, nutrition consulted for tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2135-7-15**] 07:41 PM
   20 Gauge - [**2135-7-15**] 07:41 PM
   Dialysis Catheter - [**2135-7-15**] 09:13 PM
   Arterial Line - [**2135-7-15**] 10:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Father [**Name (NI) 8405**] [**Name (NI) 8404**] [**Telephone/Fax (1) 8406**]
   Code status: Full code
   Disposition:ICU
   RESPRIATORY FAILURE -- multifactorial, including acute volume overload
   in setting of acute on chronic renal failure, on backgroudn of
   pulmonary HTN, portopulmonary (possible heptaopulmonary with shunt),
   and atalectasis due to abd distension.  Although CXR and Chest CT may
   reflect pulmonary edema and volume overload, need to consider
   infection/pneumonia in immunocompromised patient.  Plan continue
   dialysis for net diuresis.  Bronchoscopy to assess for pneumonia.
   Continue mechanical ventilation, monitor ABG, SaO2.
   PULMONARY INFILTRATES -- may be due to pulmonary edema, but consider
   pneumonia.  Plan bronchsocpy to assess for infection, including
   opportunistic infection.  Empirical antimicrobials.
   RENAL FAILURE, ACUTE -- ATN versus HRS type1.  Rx Midodrine and
   Octreotide, Albumin challenge as per Liver and Renal.  Attempt to
   resume CVVH, but may require conventional hemodialysis.
   FLUID -- net volume overload.  Desire net negative fluid balance.
   ACIDOSIS -- attributed to actue renal failure and lactic acidosis.
   Monitor on dialysis.
   LIVER FAILURE -- currently listed for liver transplant.  Lactulose and
   Cipro for prophylaxis
   ANEMIA -- attributed to renal failure, and possible contribution of
   medications.
   ANASACORIA --  stable.  Head CT WNL.  Monitor.
   NUTRITIONAL SUPPORT -- initiate TF.

2135-07-17 09:09:00 Physician Attending Progress Note
Chief Complaint: Respriatory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Experienced episode of hypotension during hemodialysis --> stopped HD
   prematurely.  CVVH resumed, now with anticoagulation (tolerating well).
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-7-16**] 02:30 AM
   Ciprofloxacin - [**2135-7-16**] 10:00 AM
   Cefipime - [**2135-7-16**] 04:00 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Heparin Sodium - 300 units/hour
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-7-16**] 08:55 PM
   Heparin Sodium (Prophylaxis) - [**2135-7-17**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea, Hypotension
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2135-7-17**] 09:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.5
C (97.7
   HR: 80 (78 - 96) bpm
   BP: 107/58(74) {89/49(66) - 141/86(275)} mmHg
   RR: 24 (22 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 18 (12 - 27)mmHg
   Total In:
                                                                  3,072 mL
                                                                    641 mL
   PO:
   TF:
                                                                     78 mL
                                                                     83 mL
   IVF:
                                                                  2,364 mL
                                                                    484 mL
   Blood products:
                                                                    450 mL
   Total out:
                                                                  3,628 mL
                                                                  1,109 mL
   Urine:
                                                                    313 mL
                                                                     88 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -556 mL
                                                                   -468 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 32 cmH2O
   Plateau: 25 cmH2O
   Compliance: 20 cmH2O/mL
   SpO2: 97%
   ABG: 7.29/40/95.[**Numeric Identifier 253**]/19/-6
   Ve: 9.1 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, dysconjugate gaze
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : crackles, scattered, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, surgical incisions, well-healed midline
   and RUQ
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.6 g/dL
   143 K/uL
   91 mg/dL
   3.2 mg/dL
   19 mEq/L
   4.6 mEq/L
   59 mg/dL
   111 mEq/L
   138 mEq/L
   26.9 %
   9.9 K/uL
        [image002.jpg]
                             [**2135-7-16**]  04:00 AM
                             [**2135-7-16**]  04:18 AM
                             [**2135-7-16**]  06:31 AM
                             [**2135-7-16**]  04:32 PM
                             [**2135-7-16**]  04:48 PM
                             [**2135-7-16**]  07:48 PM
                             [**2135-7-16**]  09:58 PM
                             [**2135-7-16**]  10:11 PM
                             [**2135-7-17**]  04:02 AM
                             [**2135-7-17**]  04:19 AM
   WBC
   10.8
   9.2
   9.9
   Hct
   24.5
   26.7
   28.0
   26.9
   Plt
   147
   147
   143
   Cr
   3.6
   3.8
   3.2
   TCO2
   24
   23
   21
   22
   22
   20
   Glucose
   111
   109
   73
   91
   Other labs: PT / PTT / INR:18.4/83.4/1.7, ALT / AST:[**10-18**], Alk Phos / T
   Bili:224/2.8, Differential-Neuts:86.6 %, Lymph:6.8 %, Mono:1.1 %,
   Eos:5.4 %, Lactic Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:208 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   30 yom, s/p liver transplant (failed due to rejection) now with acute
   renal failure and respiratory failure.
   RESPRIATORY FAILURE -- multifactorial, including acute volume overload
   in setting of acute on chronic renal failure, on backgroudn of
   pulmonary HTN, portopulmonary (possible heptaopulmonary with shunt),
   and atalectasis due to abd distension.  Await bronchscopy results to
   assess for pneumonia.   Plan continue dialysis for net diuresis.
   Continue mechanical ventilation, monitor ABG, SaO2, maintain SaO2 >90%.
   PULMONARY INFILTRATES -- may be due to pulmonary edema (cardiogenic vs.
   non-cardiogenic), but consider pneumonia.  Plan bronchscopy to assess
   for infection, including opportunistic infection.  Empirical
   antimicrobials.
   RENAL FAILURE, ACUTE -- ATN versus HRS type1.  Rx Midodrine and
   Octreotide, Albumin challenge as per Liver and Renal.  Continue CVVH.
   FLUID -- net volume overload.  Desire net negative fluid balance
   towards dry weight.
   ACIDOSIS -- attributed to actue renal failure and lactic acidosis.
   Monitor on dialysis.
   LIVER FAILURE -- currently listed for liver transplant.  Lactulose and
   Cipro for prophylaxis
   ANEMIA -- attributed to renal failure, and possible contribution of
   medications.
   NUTRITIONAL SUPPORT -- initiated TF
 initially high residuals.
   Increasing slowly.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2135-7-17**] 06:29 AM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2135-7-15**] 07:41 PM
   20 Gauge - [**2135-7-15**] 07:41 PM
   Dialysis Catheter - [**2135-7-15**] 09:13 PM
   Arterial Line - [**2135-7-15**] 10:11 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2135-07-18 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 8404**] is a 30 year old gentleman with biliary
   atresia s/p liver transplant (25 years ago) complicated by recurrent
   cirrhosis, hepato-pulmonary syndrome, porto-pulmonary hypertension,
   post-infectious GN, nephrotic syndrome and asthma admitted peritonitis
   s/p ex-lap now transferred to the MICU for hypoxic respiratory distress
   24 Hour Events:
 ULTRASOUND - At [**2135-7-17**] 11:34 AM
   -Vent setting unchanged in past 24Hrs.
   -RUQ US performed, normal post-transplant study.
   -Continuing CVVH, goal -2/2.5 liters per day.  Technical problems with
   machine, clotted, interfering with ability to remain net negative.
   Appears resolved this AM.
   -Episode of vomiting mid-day, with high residuals.  Abdominal girth
   noted to have increased since [**7-17**] am. BS Negative. Still no BM since
   admission to MICU (last BM [**7-15**]). KUB obtained, showed no evidence of
   obstruction, large amount of stool in colon.  Reglan started for
   nausea.  Tube feeds were restarted but continued to have residuals and
   so were off for the majority of the night.
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2135-7-16**] 04:00 PM
   Ciprofloxacin - [**2135-7-17**] 10:00 AM
   Vancomycin - [**2135-7-17**] 10:46 AM
   Infusions:
   Heparin Sodium - 100 units/hour
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 150 mcg/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2135-7-17**] 08:00 AM
   Pantoprazole (Protonix) - [**2135-7-17**] 08:00 AM
   Midazolam (Versed) - [**2135-7-17**] 09:00 PM
   Fentanyl - [**2135-7-17**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-7-18**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.8
C (98.3
   HR: 73 (67 - 112) bpm
   BP: 132/78(99) {102/55(70) - 149/92(273)} mmHg
   RR: 24 (21 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 20 (16 - 26)mmHg
   Total In:
                                                                  2,868 mL
                                                                    669 mL
   PO:
   TF:
                                                                    171 mL
   IVF:
                                                                  2,152 mL
                                                                    669 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  3,879 mL
                                                                  1,556 mL
   Urine:
                                                                    189 mL
                                                                     59 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,011 mL
                                                                   -887 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.30/39/130/17/-6
   Ve: 7.1 L/min
   PaO2 / FiO2: 325
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   110 K/uL
   7.9 g/dL
   90 mg/dL
   2.8 mg/dL
   17 mEq/L
   4.8 mEq/L
   37 mg/dL
   107 mEq/L
   134 mEq/L
   25.4 %
   8.4 K/uL
        [image002.jpg]
   BUN  was 45 on [**7-17**]
                             [**2135-7-16**]  10:11 PM
                             [**2135-7-17**]  04:02 AM
                             [**2135-7-17**]  04:19 AM
                             [**2135-7-17**]  10:26 AM
                             [**2135-7-17**]  10:43 AM
                             [**2135-7-17**]  04:16 PM
                             [**2135-7-17**]  09:49 PM
                             [**2135-7-17**]  10:07 PM
                             [**2135-7-18**]  03:23 AM
                             [**2135-7-18**]  03:44 AM
   WBC
   9.9
   8.4
   Hct
   26.9
   25.4
   25.4
   Plt
   143
   110
   Cr
   3.2
   2.9
   2.8
   TCO2
   22
   20
   21
   20
   20
   Glucose
   91
   98
   92
   101
   95
   90
   Other labs: PT / PTT / INR:17.7/53.4/1.6, ALT / AST:[**10-19**], Alk Phos / T
   Bili:272/2.0, Differential-Neuts:86.6 %, Lymph:6.8 %, Mono:1.1 %,
   Eos:5.4 %, Lactic Acid:1.3 mmol/L, Albumin:3.5 g/dL, LDH:143 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   TacroFK from [**7-17**]: 2.1 (range 5-20)
   ABGs
   [1][**2135-7-18**] 03:44AM
                                     ART
                                    37.8
   130*
                                     39
                                    7.30*
                                     20*
                                     -6
   [2][**2135-7-17**] 10:07PM
                                     ART
                                    35.6
   5
   123*
                                     37
                                    7.31*
                                     20*
                                     -6
   INTUBATED
   [3][**2135-7-17**] 04:58PM
                                     ART
                                    37.1
   7.29*
   [4][**2135-7-17**] 10:43AM
                                     ART
                                    36.6
                                     24/
                                     400
                                      5
                                     40
   140*
                                     40
                                    7.31*
                                     21
                                     -5
   ASSIST/CON[1]
                                  INTUBATED
   [5][**2135-7-17**] 04:19AM
                                     ART
                                    36.1
   96
                                     40
                                    7.29*
                                     20*
                                     -6
   INTUBATED
   Imaging: KUB from [**7-17**]: Non-obstructive bowel gas pattern with air
   extending upto the rectosigmoid
   region
   RUQ US from [**7-17**]: 1. Patent hepatic vasculature. 2. Right pleural
   effusion.
   CXR from [**7-17**]: No significant change to parenchyma or effusions.
   Microbiology:
   BAL from [**7-16**]: RESPIRATORY CULTURE (Preliminary):  NO GROWTH, <1000
   CFU/ml.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
      Immunoflourescent test for Pneumocystis jirovecii (carinii)
   (Final):    NEGATIVE for Pneumocystis jirovecii (carinii).
   Resp viral cx from [**7-16**]: Pending
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 LIVER FUNCTION ABNORMALITIES
   Mr. [**Known lastname 8404**] is a 30 year old gentleman with biliary atresia s/p liver
   transplant (25 years ago) complicated by recurrent cirrhosis,
   hepato-pulmonary syndrome, porto-pulmonary hypertension,
   post-infectious GN, nephrotic syndrome and asthma admitted peritonitis
   s/p ex-lap now transferred to the MICU for hypoxic respiratory distress
   and requiring intubation last night.
   1) HYPOXIC RESPIRATORY DISTRESS: Multiple reasons for worsening hypoxia
   and increased work of breathing in setting of chronic hypoxia with AA
   gradient.
   *Baseline low PaO2 of 70s likely due to impaired VQ mm due to known
   stable L pleural effusion and from atelectasis from ascites.  Also
   shunt from known hepatopulmonary syndrome.
   *Parenchymal opacities c/w PNA vs. pulmonary edema, with CXR
   improved/stable and prelim neg cx from BAL. Stable but acidemic ABG on
   FiO2 of 40%. Because of difficulties with CVVH, we were unable to
   attain negative fluid balance. Thus the first step to optimizing
   respiratory status is to continue CVVH with net -2L goal for today.
   FiO2 can be weaned as tolerated given high PaO2. In the coming day(s),
   PSV can be attempted if negative fluid balance goal and clinical
   picture allow.
   *Mixed metabolic and respiratory acidosis. Delta gap: 2.7. [**Doctor Last Name 6492**]
   predicts PaCO2 of 35.5, actual is 37. Vt is limited in this small
   patient, and RR is already 24, so changes in these variables are not
   preferable.
   * Day 2 of vanc/cefepime/cipro. Prelim BAL cx was negative, so if final
   read is negative, we can likely discontinue abx if his respiratory
   status remains stable to improved, since his respiratory failure is
   likely due to pulmonary edema if no infection is identified.
   -Continue CCVH this AM with goal of fluid balance of -2L/24Hr.
   -Continue attempt wean.  Goal Pa02 60-80
   - Continue vanc/cefepime/cipro until cultures return. Check renal
   dosing.
   - Check bladder pressure to rule out contribution to increased
   abdominal pressure with subsequent atelectasis/VQ mismatch.
   - Follow up official read LENIs, but there low suspicion currently for
   PE, particularly in face of improvement radiographically with HD/CVVH.
    2) GI DYSMOTILITY, with abdominal distention, TF residuals, and no BM
   since [**7-15**]. On bowel regimen. KUB with no evidence of obstruction,
   large amount of stool in colon. Ddx includes decreased motility in the
   setting of medications vs. increased intrabdominal pressure leading to
   ileus. Abd US today to rule out abdominal ascites (RUQ US did not
   comment on ascites) and bladder pressure assessment to rule out bladder
   contribution to increased abdominal pressure. No enema today given CVVH
   but administer if BM not achieved today.
   -Abdominal US for ascites.
   -Measure bladder pressure.
   -Continue aggressive bowel regimen.
   -Continue Reglan IV PRN nausea.
   3) CIRRHOSIS: Patient with history of biliary atresia s/p liver
   transplant (age 4) complicated by chronic rejection. Currently on
   transplant list. Prograf levels low today. Was on cipro for SBP
   prophylaxis, now dosed for VAP; if D/C cipro per above, will need to
   restart cipro at SBP levels.
   - No BM since admission. Continue lactulose.
   - Continue to check LFTS/ calc meld score for transplant.
   - Contact [**Name (NI) **] and liver teams regarding preferred mode of
   administration and dose to increase level.
   4) RENAL FAILURE: Patient with history of post-strep GN now with acute
   on sub-acute renal failure likely secondary to ATN versus HRS type 1.
   CVVH last night but stopped due to filter clot, so HD will start this
   AM.
   - Continue CCVH, with goal of fluid balance of -2L/24Hr, per above.
   -Continue HRS therapy with albumin 1g/kg, midodrine, octreotide.
   -Goal off 2-3 L with CVVH.
   - Trend creatinine, UOP, monitor vitals.
   5) PLEURAL EFFUSION: hepatohydrothorax given transudate on most recent
   thoracentesis +/- volume load in setting in renal failure. Given
   improvement with HD, CVVH, no thoracentesis at this time. Will reassess
   if resp status not improved with CVVH.
   - Continue CVVH.
   6) ANEMIA: Patient with intermitent transfusion requirement, with last
   transfusion requirement on [**7-14**] (1 unit PRBC).  Likely has chronic
   anemia from liver and renal failure. Hct stable this AM at 26.9
   - Guaiac all stools
   - Trend hct Q12H, transfuse hct<21.
   7) ANISOCORIA: Non-contrast CTH without acute pathology and diminished
   asymmetry of pupils on exam this AM. Unclear etiology; likely drug
   effect given improvement this AM and no findings on CT.
   -Continue to follow.
   8) FEN: made NPO given respiratory distress. Nutrition consulted.
   -On tube feeds, holding for high residuals. Resume as tolerated
   following BM.
   - Continue ISS for glycemic control if hyperglycemic, GFS q4.
   9) ACCESS
   -PICC Line - [**2135-7-15**] 07:41 PM
   -20 Gauge - [**2135-7-15**] 07:41 PM
   -Dialysis Catheter - [**2135-7-15**] 09:13 PM
   -Arterial Line - [**2135-7-15**] 10:11 PM
   10) PPx: PPI, heparin, pneumoboots.
   11) COMMUNICATION: his father, [**Name (NI) 8405**]
   12). DISPOSITION: ICU for now, with goal of weaning vent.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2135-7-15**] 07:41 PM
   20 Gauge - [**2135-7-15**] 07:41 PM
   Dialysis Catheter - [**2135-7-15**] 09:13 PM
   Arterial Line - [**2135-7-15**] 10:11 PM
   Prophylaxis:
   DVT: heparin, pneumoboots
   Stress ulcer:  PPI
   VAP:  on cipro/cefepine/vanco
   Communication:  his father, [**Name (NI) 8405**]
   [**Name (NI) 156**] status: Full code
   Disposition: ICU for now, with goal of weaning vent.
   ------ Protected Section ------
   ADDENDUM:
   Physical Exam
   General: Sedated, responsive to voice but not interactive.
   HEENT: Pupils equal, round, and reactive.
   Chest: Regular rate and rhythm, normal S1 and S2.
   Respiratory:  Fine crackles bilaterally on anterior exam.
   Abdomen: Soft, moderately distended, non-tender, no bowel sounds
   appreciated.
   Extremities: Warm and well-perfused, 2+ pitting edema bilaterally.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 8441**] MS
   on:[**2135-7-18**] 14:40 ------
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_81%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_82%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_83%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_84%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_85%22);

2135-07-18 10:28:00 Physician Attending Progress Note
Chief Complaint: resp failure, liver failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2135-7-17**] 11:34 AM
   CVVH clotting off
 did not meet fluid goals
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2135-7-16**] 04:00 PM
   Ciprofloxacin - [**2135-7-17**] 10:00 AM
   Vancomycin - [**2135-7-17**] 10:46 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2135-7-17**] 09:00 PM
   Fentanyl - [**2135-7-17**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-7-18**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.6
C (97.9
   HR: 69 (67 - 112) bpm
   BP: 131/78(99) {102/55(70) - 155/96(273)} mmHg
   RR: 24 (21 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 14 (14 - 26)mmHg
   Total In:
                                                                  2,868 mL
                                                                    937 mL
   PO:
   TF:
                                                                    171 mL
   IVF:
                                                                  2,152 mL
                                                                    937 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  3,879 mL
                                                                  1,698 mL
   Urine:
                                                                    189 mL
                                                                     79 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,011 mL
                                                                   -761 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.30/39/130/17/-6
   Ve: 9.2 L/min
   PaO2 / FiO2: 325
   Physical Examination
   Gen: intubated and sedated
   HEENT: pupils
   CV: RR
   Chest: fair air movement
   Abd: soft but distended
   Ext: 3+ edema
   Neuro: sedated but wakes to stimulation
   Labs / Radiology
   7.9 g/dL
   110 K/uL
   90 mg/dL
   2.8 mg/dL
   17 mEq/L
   4.8 mEq/L
   37 mg/dL
   107 mEq/L
   134 mEq/L
   25.4 %
   8.4 K/uL
        [image002.jpg]
                             [**2135-7-16**]  10:11 PM
                             [**2135-7-17**]  04:02 AM
                             [**2135-7-17**]  04:19 AM
                             [**2135-7-17**]  10:26 AM
                             [**2135-7-17**]  10:43 AM
                             [**2135-7-17**]  04:16 PM
                             [**2135-7-17**]  09:49 PM
                             [**2135-7-17**]  10:07 PM
                             [**2135-7-18**]  03:23 AM
                             [**2135-7-18**]  03:44 AM
   WBC
   9.9
   8.4
   Hct
   26.9
   25.4
   25.4
   Plt
   143
   110
   Cr
   3.2
   2.9
   2.8
   TCO2
   22
   20
   21
   20
   20
   Glucose
   91
   98
   92
   101
   95
   90
   Other labs: PT / PTT / INR:17.7/53.4/1.6, ALT / AST:[**10-19**], Alk Phos / T
   Bili:272/2.0, Differential-Neuts:86.6 %, Lymph:6.8 %, Mono:1.1 %,
   Eos:5.4 %, Lactic Acid:1.3 mmol/L, Albumin:3.5 g/dL, LDH:143 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 LIVER FUNCTION ABNORMALITIES
   30 yom, s/p liver transplant (failed due to rejection) now with acute
   renal failure and respiratory failure.
   RESPIRATORY FAILURE -- multifactorial, including acute volume overload
   in setting of acute on chronic renal failure, on background of
   pulmonary HTN, portopulmonary (possible heptaopulmonary with shunt),
   and atelectasis due to abd distension.  .   Plan continue dialysis for
   net diuresis.  Continue mechanical ventilation, monitor ABG, SaO2,
   maintain SaO2 >90%.
   Hope for PSV once more negative.
   PULMONARY INFILTRATES -- may be due to pulmonary edema (cardiogenic vs.
   non-cardiogenic), but consider pneumonia.  .  Empirical antimicrobials.
   Follow up BAL results
   RENAL FAILURE, ACUTE -- ATN versus HRS type1.  Rx Midodrine and
   Octreotide, Albumin challenge as per Liver and Renal.  Continue CVVH.
   LIVER FAILURE -- currently listed for liver transplant.  Lactulose and
   Cipro for prophylaxis. Prograf
 need to convert to IV as was not
   receiving/absorbing due to high residuals
   ANEMIA -- attributed to renal failure, and possible contribution of
   medications.
   NUTRITIONAL SUPPORT -- initiated TF
 initially high residuals.
   Increase bowel regimen
   ICU Care
   Nutrition: try to get bowels moving and place post pyloric Dophoff
   Glycemic Control:
   Lines:
   PICC Line - [**2135-7-15**] 07:41 PM
   20 Gauge - [**2135-7-15**] 07:41 PM
   Dialysis Catheter - [**2135-7-15**] 09:13 PM
   Arterial Line - [**2135-7-15**] 10:11 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  with father and sister
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2135-07-19 07:41:00 Physician Resident Progress Note
Chief Complaint: Mr. [**Known lastname 8404**] is a 30 year old gentleman with biliary
   atresia s/p liver transplant (25 years ago) complicated by recurrent
   cirrhosis, hepato-pulmonary syndrome, porto-pulmonary hypertension,
   post-infectious GN, nephrotic syndrome and asthma admitted peritonitis
   s/p ex-lap now transferred to the MICU for hypoxic respiratory distress
   and requiring intubation last night.
   24 Hour Events:
   -CVVH goal -2L per day - total net negative 3L
   -Changed to SL tacrolimus due to low levels and impaired PO intake due
   to low GI motility. Talked to liver, D/C tacrolimus, follow AM tacroFK
   levels, Liver will consult on dose to give. Pt needs eval for liver and
   kidney transplant. Follow liver and renal recs.
   -Bladder pressure measured = 14, no para at this time
   -Increased lactulose to 30ml QID for aggressive bowel regimen - pt had
   monsterous bowel movement last night, will titrate to 3bm/day
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2135-7-18**] 10:00 AM
   Vancomycin - [**2135-7-18**] 11:30 AM
   Cefipime - [**2135-7-18**] 05:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-7-19**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36
C (96.8
   HR: 88 (66 - 101) bpm
   BP: 157/87(114) {131/75(95) - 157/96(120)} mmHg
   RR: 22 (20 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 77.5 kg
   Height: 64 Inch
    CVP: 16 (5 - 23)mmHg
   Bladder pressure: 14 (14 - 14) mmHg
   Total In:
                                                                  3,276 mL
                                                                    845 mL
   PO:
   TF:
   IVF:
                                                                  2,776 mL
                                                                    845 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  6,359 mL
                                                                    997 mL
   Urine:
                                                                    199 mL
                                                                     70 mL
   NG:
                                                                    120 mL
   Stool:
                                                                    850 mL
   Drains:
   Balance:
                                                                 -3,083 mL
                                                                   -152 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/34/147/19/-2
   Ve: 8.7 L/min
   PaO2 / FiO2: 367
   Physical Examination
   General: Sedated, nonresponsive to voice or painful stimuli
   HEENT: Pupils equal, round, and reactive.
   Chest: rrr without r,g,m
   Respiratory:  Coarse bs bilateral anterior exam, intubated
   Abdomen: Soft, moderately distended, non-tender, no bowel sounds
   appreciated.
   Extremities: Warm and well-perfused, 2+ pitting edema bilaterally.
   Labs / Radiology
   101 K/uL
   8.1 g/dL
   97 mg/dL
   1.8 mg/dL
   19 mEq/L
   4.1 mEq/L
   19 mg/dL
   109 mEq/L
   136 mEq/L
   25.8 %
   9.3 K/uL
        [image002.jpg]
                             [**2135-7-18**]  03:23 AM
                             [**2135-7-18**]  03:44 AM
                             [**2135-7-18**]  11:23 AM
                             [**2135-7-18**]  11:31 AM
                             [**2135-7-18**]  03:57 PM
                             [**2135-7-18**]  04:03 PM
                             [**2135-7-18**]  09:56 PM
                             [**2135-7-18**]  10:05 PM
                             [**2135-7-19**]  03:47 AM
                             [**2135-7-19**]  04:23 AM
   WBC
   8.4
   9.3
   Hct
   25.4
   25.8
   Plt
   110
   101
   Cr
   2.8
   2.5
   2.3
   1.8
   TCO2
   20
   19
   19
   21
   22
   Glucose
   95
   90
   120
   113
   96
   97
   Other labs: PT / PTT / INR:18.8/150.0/1.7, ALT / AST:[**8-19**], Alk Phos / T
   Bili:262/2.0, Differential-Neuts:86.6 %, Lymph:6.8 %, Mono:1.1 %,
   Eos:5.4 %, Lactic Acid:1.3 mmol/L, Albumin:3.1 g/dL, LDH:150 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL, BAL bacterial culture
   negative
   Assessment and Plan
   Mr. [**Known lastname 8404**] is a 30 year old gentleman with biliary atresia s/p liver
   transplant (25 years ago) complicated by recurrent cirrhosis,
   hepato-pulmonary syndrome, porto-pulmonary hypertension,
   post-infectious GN, nephrotic syndrome and asthma admitted peritonitis
   s/p ex-lap now transferred to the MICU for hypoxic respiratory distress
   and requiring intubation last night.
   1) HYPOXIC RESPIRATORY DISTRESS: Multiple reasons for worsening hypoxia
   and increased work of breathing in setting of chronic hypoxia with AA
   gradient.
   *Baseline low PaO2 of 70s likely due to impaired VQ mm due to known
   stable L pleural effusion and from atelectasis from ascites.  Also
   shunt from known hepatopulmonary syndrome.
   *Parenchymal opacities c/w PNA vs. pulmonary edema, with CXR
   improved/stable and prelim neg cx from BAL. Stable but acidemic ABG on
   FiO2 of 40%. Able to get -3L off yesterday.
   *Metabolic acidosis with appropriate  respiratory compensation
   * Bladder pressure 14, relatively low and unlikely to make much of a
   difference in atelectasis/VQ mismatch
   * Day 3 of vanc/cefepime/cipro. BAL negative, sputum negative.
   - D/C abx today due to negative cultures, follow clinical status
   - Continue dialysis with net goal of 2L off - follow up renal recs
   - Cont AC for now while getting volume off
 consider PS in PM
   - Wean sedation as tolerated
 restraints as needed
    2) GI DYSMOTILITY, with abdominal distention, TF residuals. BM last
   night after increase in lactulose regimen. KUB no evidence of
   obstruction, large amount of stool in colon.
   - Titrate lactulose to [**12-28**] BM per day
   - Reglan PRN for nausea
   - Restart tube feeds - check residuals
   3) CIRRHOSIS: Patient with history of biliary atresia s/p liver
   transplant (age 4) complicated by chronic rejection. Currently on
   transplant list. Liver following.
   - Restart cipro prophylaxis
   - TacroFK today, once level back Liver will decide dose of tacrolimus
   to give
   - Continue lactulose
   - Trend LFTs
   4) RENAL FAILURE: Patient with history of post-strep GN now with acute
   on sub-acute renal failure likely secondary to ATN versus HRS type 1.
   CVVH last night but stopped due to filter clot, so HD will start this
   AM.
   - Renal recs - CVVH vs HD, goal of -2L
   - Continue HRS therapy with albumin 1g/kg, midodrine, octreotide
 f/u
   liver recs
   - Trend chem-7 [**Name8 (MD) 77**] RN for CRT labs
   5) Coagulopathy: Elevated PTT, off heparin currently
   - Recheck PTT off line without heparin
   6) ANEMIA: Patient with intermitent transfusion requirement, with last
   transfusion requirement on [**7-14**] (1 unit PRBC).  Likely has chronic
   anemia from liver and renal failure. Hct stable this AM at 26.9
   - Guaiac all stools
   - Trend hct Q24H, transfuse hct<21.
   7) ANISOCORIA: Non-contrast CTH without acute pathology and diminished
   asymmetry of pupils on exam this AM. Unclear etiology; likely drug
   effect given improvement this AM and no findings on CT.
   -Continue to follow.
   8) FEN: currently NPO
   - TF, check residuals
   - ISS
   9) ACCESS
   -PICC Line - [**2135-7-15**] 07:41 PM
   -20 Gauge - [**2135-7-15**] 07:41 PM
   -Dialysis Catheter - [**2135-7-15**] 09:13 PM
   -Arterial Line - [**2135-7-15**] 10:11 PM
   10) PPx: PPI, heparin, pneumoboots.
   11) COMMUNICATION: his father, [**Name (NI) 8405**]
   12). DISPOSITION: ICU
   ICU Care
   Nutrition:
   Comments: nova source renal
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2135-7-15**] 07:41 PM
   Dialysis Catheter - [**2135-7-15**] 09:13 PM
   Arterial Line - [**2135-7-15**] 10:11 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2135-07-19 09:10:00 Physician Attending Progress Note
Chief Complaint: resp failure, volume overload
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CVVH functioning well
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2135-7-18**] 10:00 AM
   Cefipime - [**2135-7-18**] 05:00 PM
   Vancomycin - [**2135-7-19**] 08:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-7-19**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2135-7-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-7-19**] 09:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.7
   HR: 71 (66 - 101) bpm
   BP: 142/83(107) {131/78(99) - 157/94(116)} mmHg
   RR: 24 (18 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 77.5 kg
   Height: 64 Inch
   CVP: 13 (5 - 20)mmHg
   Bladder pressure: 14 (14 - 14) mmHg
   Total In:
                                                                  3,276 mL
                                                                  1,210 mL
   PO:
   TF:
   IVF:
                                                                  2,776 mL
                                                                  1,170 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  6,359 mL
                                                                  1,401 mL
   Urine:
                                                                    199 mL
                                                                     85 mL
   NG:
                                                                    120 mL
   Stool:
                                                                    850 mL
   Drains:
   Balance:
                                                                 -3,083 mL
                                                                   -190 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 18 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/34/147/19/-2
   Ve: 9 L/min
   PaO2 / FiO2: 367
   Physical Examination
   Gen: intubated and sedated
   HEENT: pupils symmetric at 2mm and reactive
   CV: RR
   Chest: fair air movement no wheeze
   Abd: soft but distended
   Ext: 3+ edema
   Neuro: sedated but wakes to stimulation
   Labs / Radiology
   8.1 g/dL
   101 K/uL
   97 mg/dL
   1.8 mg/dL
   19 mEq/L
   4.1 mEq/L
   19 mg/dL
   109 mEq/L
   136 mEq/L
   25.8 %
   9.3 K/uL
        [image002.jpg]
                             [**2135-7-18**]  03:23 AM
                             [**2135-7-18**]  03:44 AM
                             [**2135-7-18**]  11:23 AM
                             [**2135-7-18**]  11:31 AM
                             [**2135-7-18**]  03:57 PM
                             [**2135-7-18**]  04:03 PM
                             [**2135-7-18**]  09:56 PM
                             [**2135-7-18**]  10:05 PM
                             [**2135-7-19**]  03:47 AM
                             [**2135-7-19**]  04:23 AM
   WBC
   8.4
   9.3
   Hct
   25.4
   25.8
   Plt
   110
   101
   Cr
   2.8
   2.5
   2.3
   1.8
   TCO2
   20
   19
   19
   21
   22
   Glucose
   95
   90
   120
   113
   96
   97
   Other labs: PT / PTT / INR:18.8/150.0/1.7, ALT / AST:[**8-19**], Alk Phos / T
   Bili:262/2.0, Differential-Neuts:86.6 %, Lymph:6.8 %, Mono:1.1 %,
   Eos:5.4 %, Lactic Acid:1.3 mmol/L, Albumin:3.1 g/dL, LDH:150 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   BAL
 cx negative
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 LIVER FUNCTION ABNORMALITIES
   30 yo m, s/p liver transplant (failed due to rejection) now with acute
   renal failure and respiratory failure.
   RESPIRATORY FAILURE -- multifactorial, including acute volume overload
   in setting of acute on chronic renal failure, on background of
   pulmonary HTN, portopulmonary (possible heptaopulmonary with shunt),
   and atelectasis due to abd distension.  .   Plan continue dialysis for
   net diuresis.  Continue mechanical ventilation, monitor ABG, SaO2,
   maintain SaO2 >90%.
   Hope for PSV perhaps this afternoon
   PULMONARY INFILTRATES suspect mostly acute volume- BAL negative stop
   empiric ABX
   RENAL FAILURE, ACUTE -- ATN versus HRS type1.  Rx Midodrine and
   Octreotide, Albumin challenge as per Liver and Renal but did not
   improve
will d/c.  Continue CVVH but may be able to switch to HD
   LIVER FAILURE -- currently listed for liver transplant.  Lactulose and
   Cipro for prophylaxis. Prograf
 need to convert to IV as was not
   receiving/absorbing due to high residuals Awiating level
   PTT- repeat- may have been off hep line
   NUTRITIONAL SUPPORT -- initiated TF
 initially high residuals.  Bowels
   now moving. Trend
   ICU Care
   Nutrition: TFs
   Glycemic Control:
   Lines:
   PICC Line - [**2135-7-15**] 07:41 PM
   Dialysis Catheter - [**2135-7-15**] 09:13 PM
   Arterial Line - [**2135-7-15**] 10:11 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer:PPI
   VAP: HOB chlorhex, HOB
   Communication:  father
 try to speak with tpday for update
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2135-07-20 07:26:00 Physician Resident Progress Note
Chief Complaint: Mr. [**Known lastname 8404**] is a 30 year old gentleman with biliary
   atresia s/p liver transplant (25 years ago) complicated by recurrent
   cirrhosis, hepato-pulmonary syndrome, porto-pulmonary hypertension,
   post-infectious GN, nephrotic syndrome and asthma admitted peritonitis
   s/p ex-lap now transferred to the MICU for hypoxic respiratory distress
   and requiring intubation last night.
   24 Hour Events:
   -Fentanyl 100 mcg/hr decreased to 75mg/hr and Midazolam 2mg/hr reduced
   to 1mg/hr.
   -CVVH clotted off after ~30 hours running, with removal of
   200-250cc/hr. CVVH was restarted. If CVVH clots again plan is to switch
   to ID.
   -Hepatology recommends renal transplant eval, renal transplant fellow
   and renal fellow notified.
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2135-7-18**] 10:00 AM
   Cefipime - [**2135-7-18**] 05:00 PM
   Vancomycin - [**2135-7-19**] 08:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2135-7-19**] 04:00 PM
   Pantoprazole (Protonix) - [**2135-7-19**] 08:41 PM
   Fentanyl - [**2135-7-20**] 12:06 AM
   Midazolam (Versed) - [**2135-7-20**] 12:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-7-20**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.6
   HR: 64 (59 - 103) bpm
   BP: 136/80(102) {135/72(96) - 160/93(119)} mmHg
   RR: 24 (18 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 77.5 kg
   Height: 64 Inch
    CVP: 12 (10 - 16)mmHg
   Total In:
                                                                  2,710 mL
                                                                    701 mL
   PO:
   TF:
                                                                    203 mL
                                                                     51 mL
   IVF:
                                                                  2,227 mL
                                                                    630 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  6,176 mL
                                                                  1,710 mL
   Urine:
                                                                    186 mL
                                                                     66 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                 -3,466 mL
                                                                 -1,009 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 88
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.45/35/99.[**Numeric Identifier 299**]/22/0
   Ve: 8.7 L/min
   PaO2 / FiO2: 248
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   86 K/uL
   8.0 g/dL
   99 mg/dL
   1.6 mg/dL
   22 mEq/L
   3.6 mEq/L
   13 mg/dL
   104 mEq/L
   136 mEq/L
   25.1 %
   10.6 K/uL
        [image002.jpg]
                             [**2135-7-18**]  09:56 PM
                             [**2135-7-18**]  10:05 PM
                             [**2135-7-19**]  03:47 AM
                             [**2135-7-19**]  04:23 AM
                             [**2135-7-19**]  09:28 AM
                             [**2135-7-19**]  10:50 AM
                             [**2135-7-19**]  04:50 PM
                             [**2135-7-19**]  05:47 PM
                             [**2135-7-20**]  02:12 AM
                             [**2135-7-20**]  02:25 AM
   WBC
   9.3
   10.6
   Hct
   25.8
   25.1
   Plt
   101
   86
   Cr
   1.8
   1.7
   1.6
   TCO2
   21
   22
   24
   24
   25
   Glucose
   96
   97
   99
   104
   102
   99
   Other labs: PT / PTT / INR:18.4/60.2/1.7, ALT / AST:[**8-17**], Alk Phos / T
   Bili:231/1.7, Differential-Neuts:86.6 %, Lymph:6.8 %, Mono:1.1 %,
   Eos:5.4 %, Lactic Acid:1.5 mmol/L, Albumin:3.1 g/dL, LDH:150 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Fluid analysis / Other labs: [**7-20**] TacroFK - pnd
   [**7-19**] TacroFK - 3.0
   Imaging: [**7-19**] CXR
   FINDINGS: Since the previous study, the ET tube, NG tube, left PICC
   line and right internal jugular line are unchanged. Moderate bilateral
   pleural
   effusions are unchanged. Increased density in the right perihilar and
   right
   apical regions are consistent with worsening consolidation, probably
   pneumonia. Also increased pulmonary venous congestion with perihilar
   haziness and peribronchial cuffing in the setting of a top normal heart
   and enlargement of the azygos vein are consistent with worsening
   pulmonary edema.
   Microbiology: BAL CMV PCR - pending
   Assessment and Plan
   Mr. [**Known lastname 8404**] is a 30 year old gentleman with biliary atresia s/p liver
   transplant (25 years ago) complicated by recurrent cirrhosis,
   hepato-pulmonary syndrome, porto-pulmonary hypertension,
   post-infectious GN, nephrotic syndrome and asthma admitted peritonitis
   s/p ex-lap now transferred to the MICU for hypoxic respiratory failure
   and increased work of breathing requiring intubation
   1) HYPOXIC RESPIRATORY Failue: Multiple reasons for worsening hypoxia
   and increased work of breathing in setting of chronic hypoxia with AA
   gradient.
   *Baseline low PaO2 of 70s likely due to impaired VQ mm due to known
   stable L pleural effusion and from atelectasis from ascites.  Also
   shunt from known hepatopulmonary syndrome.
   *Parenchymal opacities c/w PNA vs. pulmonary edema, with CXR
   improved/stable and prelim neg cx from BAL. Stable but acidemic ABG on
   FiO2 of 40%. 3.5L off yesterday.
   *Metabolic acidosis with appropriate  respiratory compensation
   * Day 3 of vanc/cefepime/cipro. BAL negative, sputum negative.
   - follow up renal recs, CVVH today with HD in future, continue net
   negative
   - PS trial today, depending on how pt responds will alter extubation
   plans
   - Wean sedation as tolerated, restraints as needed for now
    2) GI DYSMOTILITY, with abdominal distention, TF residuals. KUB no
   evidence of obstruction, large amount of stool in colon.
   - Tube feeds restarted, hold for residuals over 150
   - Make NG post-pyloric
   - PRN Reglan
   - Titrate lactulose to [**12-28**] BM per day
   3) CIRRHOSIS: Patient with history of biliary atresia s/p liver
   transplant (age 4) complicated by chronic rejection. Currently on
   transplant list. Liver following.
   - Cont cipro prophylaxis
   - TacroFK level today, liver will give recs of tacrolimus dose to give
   - Cont lactulose
   - Trend LFTs
   4) RENAL FAILURE: Patient with history of post-strep GN now with acute
   on sub-acute renal failure likely secondary to ATN versus HRS type 1.
   CVVH for now.
   - Follow up renal recs - CVVH for now. If filter clots may go to HD.
   Goal net negative.
   - Consider HRS therapy - liver recs
   - Trend chem-7 [**Name8 (MD) 77**] RN for CRT labs
   5) Coagulopathy: Elevated PTT, off heparin currently. Down from 150
   yesterday.
   - Cont to trend PTT
   6) Thrombocytopenia: slowly trending down over past week. Off heparin
   except for flushes. Not quick decline like would expect with HIT.
   - Cont to trend plt
   7) ANEMIA: Patient with intermitent transfusion requirement, with last
   transfusion requirement on [**7-14**] (1 unit PRBC).  Likely has chronic
   anemia from liver and renal failure. Hct stable.
   - Trend hct Q24H, transfuse hct<21.
   8) ANISOCORIA: Non-contrast CTH without acute pathology and diminished
   asymmetry of pupils on exam this AM. Unclear etiology; likely drug
   effect given improvement this AM and no findings on CT.
   -Continue to follow.
   9) FEN: hold TF for residuals > 150cc
   - Feeding tube post pyloric
   - TF, check residuals
   - ISS
   10) ACCESS
   -PICC Line - [**2135-7-15**] 07:41 PM
   -20 Gauge - [**2135-7-15**] 07:41 PM
   -Dialysis Catheter - [**2135-7-15**] 09:13 PM
   -Arterial Line - [**2135-7-15**] 10:11 PM
   11) PPx: PPI, SC heparin, pneumoboots.
   12) COMMUNICATION: his father, [**Name (NI) 8405**]
   12). DISPOSITION: ICU
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2135-7-20**] 02:36 AM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2135-7-15**] 07:41 PM
   Dialysis Catheter - [**2135-7-15**] 09:13 PM
   Arterial Line - [**2135-7-15**] 10:11 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2135-07-20 10:28:00 Physician Attending Progress Note
Chief Complaint: resp failure, liver failure, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CVVH clotted
   Failed SBT this AM - back on AC
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2135-7-18**] 10:00 AM
   Cefipime - [**2135-7-18**] 05:00 PM
   Vancomycin - [**2135-7-19**] 08:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2135-7-19**] 04:00 PM
   Pantoprazole (Protonix) - [**2135-7-20**] 08:48 AM
   Fentanyl - [**2135-7-20**] 09:32 AM
   Midazolam (Versed) - [**2135-7-20**] 09:32 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-7-20**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 77 (59 - 103) bpm
   BP: 136/73(98) {131/72(96) - 160/93(119)} mmHg
   RR: 24 (18 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 77.5 kg
   Height: 64 Inch
   CVP: 9 (9 - 16)mmHg
   Total In:
                                                                  2,710 mL
                                                                  1,101 mL
   PO:
   TF:
                                                                    203 mL
                                                                     86 mL
   IVF:
                                                                  2,227 mL
                                                                    975 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  6,176 mL
                                                                  2,598 mL
   Urine:
                                                                    186 mL
                                                                     86 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                 -3,466 mL
                                                                 -1,496 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 88
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.47/31/111/23/0
   Ve: 8.7 L/min
   PaO2 / FiO2: 277
   Physical Examination
   Gen: intubated and sedated but will wake to voice
   HEENT: pupils symmetric at 2mm and reactive
   CV: RR
   Chest: fair air movement no wheeze
   Abd: soft but distended
   Ext: 2+ edema
   Labs / Radiology
   8.0 g/dL
   86 K/uL
   85 mg/dL
   1.5 mg/dL
   23 mEq/L
   3.6 mEq/L
   12 mg/dL
   103 mEq/L
   135 mEq/L
   25.1 %
   10.6 K/uL
        [image002.jpg]
                             [**2135-7-19**]  04:23 AM
                             [**2135-7-19**]  09:28 AM
                             [**2135-7-19**]  10:50 AM
                             [**2135-7-19**]  04:50 PM
                             [**2135-7-19**]  05:47 PM
                             [**2135-7-20**]  02:12 AM
                             [**2135-7-20**]  02:25 AM
                             [**2135-7-20**]  07:30 AM
                             [**2135-7-20**]  07:48 AM
                             [**2135-7-20**]  08:46 AM
   WBC
   10.6
   Hct
   25.1
   Plt
   86
   Cr
   1.7
   1.6
   1.5
   TCO2
   22
   24
   24
   25
   24
   23
   Glucose
   99
   104
   102
   99
   85
   Other labs: PT / PTT / INR:18.4/60.2/1.7, ALT / AST:[**8-17**], Alk Phos / T
   Bili:231/1.7, Differential-Neuts:86.6 %, Lymph:6.8 %, Mono:1.1 %,
   Eos:5.4 %, Lactic Acid:1.5 mmol/L, Albumin:3.1 g/dL, LDH:150 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:1.5 mg/dL
   Tacro 3
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 LIVER FUNCTION ABNORMALITIES
   30 yo m, s/p liver transplant (failed due to rejection) now with acute
   renal failure and respiratory failure.
   RESPIRATORY FAILURE -- multifactorial, including acute volume overload
   in setting of acute on chronic renal failure, on background of
   pulmonary HTN, portopulmonary (possible heptaopulmonary with shunt),
   and atelectasis due to abd distension.    Plan continue dialysis for
   net diuresis.  Continue mechanical ventilation, monitor ABG, SaO2,
   maintain SaO2 >90%.
   Hope for PSV perhaps this afternoon
 he failed sbt this AM but erhaps
   with more volume off and adequate sedation he will do OK on PSV closer
   to 15-20/5. Also meanwhile we will drop rate on AC to 20 and see how he
   holds given alalemia
   PULMONARY INFILTRATES suspect mostly acute volume- BAL negative stop
   empiric ABX
   RENAL FAILURE, ACUTE -- ATN versus HRS type1.  Rx Midodrine and
   Octreotide, Albumin challenge as per Liver and Renal but did not
   improve
Hepatology wants to continue.  Continue CVVH but may be able
   to switch to HD in next 24-48 hours.
   LIVER FAILURE -- currently listed for liver transplant.  Lactulose and
   Cipro for prophylaxis. Prograf
 level low yesterday speak with
   pharmacy about adjusting.
   NUTRITIONAL SUPPORT -- initiated TF
 initially high residuals improved
   but now worse again. Check KUB serial abd exams may need post pyloric
   dophoff
   ICU Care
   Nutrition:  NovaSource Renal (Full) - [**2135-7-20**] 02:36 AM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2135-7-15**] 07:41 PM
   Dialysis Catheter - [**2135-7-15**] 09:13 PM
   Arterial Line - [**2135-7-15**] 10:11 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: hob chlorhex
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2135-07-21 07:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 8404**] is a 30 year old gentleman with biliary
   atresia s/p liver transplant (25 years ago) complicated by recurrent
   cirrhosis, hepato-pulmonary syndrome, porto-pulmonary hypertension,
   post-infectious GN, nephrotic syndrome and asthma admitted peritonitis
   s/p [**Hospital 8531**] transferred to the MICU for hypoxic respiratory failure and
   increased work of breathing requiring intubation.
   24 Hour Events:
   -Vent: RR decreased from 24 to 20, continued at FiO2 40%, Vt 400, PEEP
   5. ABG stable. RSBI 61 (was 88) this AM.
   -CVVH proceeded smoothly throughout the day, at -200 cc/hr, resulting
   in 3 L negative by midnight. Citrate started. CVVH rate decreased to
   -150cc/hr.
   -Liver advised starting tacrolimus daily, dose given in afternoon. Need
   to coordinate dose timing so that lab checks for level can precede and
   inform dose administered.
   -Hypoechoic BS, small amounts of stool. KUB with prelim read of stool
   but no signs of obstruction. TF held for residuals. Aggressive bowel
   regimen in progress, with 1 large BM this AM (700 cc) and TF
   subsequently restarted.
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2135-7-18**] 10:00 AM
   Cefipime - [**2135-7-18**] 05:00 PM
   Vancomycin - [**2135-7-19**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Calcium Gluconate (CRRT) - 2 grams/hour
   Other ICU medications:
   Midazolam (Versed) - [**2135-7-20**] 09:32 AM
   Fentanyl - [**2135-7-20**] 09:32 AM
   Heparin Sodium (Prophylaxis) - [**2135-7-20**] 03:33 PM
   Pantoprazole (Protonix) - [**2135-7-20**] 08:30 PM
   Other medications:
   Changes to medical and family history:  N/A
   Review of systems is unchanged from admission except as noted below
   Review of systems: N/A
   Flowsheet Data as of  [**2135-7-21**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 65 (64 - 101) bpm
   BP: 143/80(105) {127/70(89) - 152/90(112)} mmHg
   RR: 20 (18 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 77.5 kg
   Height: 64 Inch
    CVP: 16 (8 - 16)mmHg
   Total In:
                                                                  4,177 mL
                                                                  2,108 mL
   PO:
   TF:
                                                                    278 mL
                                                                     33 mL
   IVF:
                                                                  3,798 mL
                                                                  2,076 mL
   Blood products:
   Total out:
                                                                  7,188 mL
                                                                  3,853 mL
   Urine:
                                                                    148 mL
                                                                    112 mL
   NG:
   Stool:
                                                                    300 mL
                                                                    700 mL
   Drains:
   Balance:
                                                                 -3,011 mL
                                                                 -1,745 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 10 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.45/39/123/26/3
   Ve: 7.3 L/min
   PaO2 / FiO2: 308
   Physical Examination
   Gen: Sedated, intubed.
   Chest: RRR, no m/r/g
   Resp: CTA bilaterally.
   Abd: Mildly distended/tense (stable). BS+ but hypoechoic.
   Ext: Warm, well-perfused. 2+ DP. [**11-26**]+ pitting edema (significant
   improvement from prior days).
   Labs / Radiology
   94 K/uL
   8.1 g/dL
   107 mg/dL
   1.5 mg/dL
   26 mEq/L
   3.4 mEq/L
   8 mg/dL
   103 mEq/L
   137 mEq/L
   25.8 %
   9.5 K/uL
        [image002.jpg]
                             [**2135-7-20**]  02:25 AM
                             [**2135-7-20**]  07:30 AM
                             [**2135-7-20**]  07:48 AM
                             [**2135-7-20**]  08:46 AM
                             [**2135-7-20**]  11:26 AM
                             [**2135-7-20**]  01:27 PM
                             [**2135-7-20**]  01:48 PM
                             [**2135-7-20**]  07:46 PM
                             [**2135-7-21**]  02:03 AM
                             [**2135-7-21**]  02:21 AM
   WBC
   9.8
   9.5
   Hct
   26.7
   25.8
   Plt
   93
   94
   Cr
   1.5
   1.5
   1.5
   TCO2
   25
   24
   23
   25
   26
   29
   28
   Glucose
   99
   85
   96
   110
   107
   Other labs: PT / PTT / INR:17.5/60.7 (was 40.8 yesterday)/1.6, ALT /
   AST:10/35, Alk Phos / T Bili:265/1.3, Differential-Neuts:86.6 %,
   Lymph:6.8 %, Mono:1.1 %, Eos:5.4 %, Lactic Acid:1.3 mmol/L, Albumin:2.9
   g/dL, LDH:164 IU/L, Ca++:7.8 mg/dL, Mg++:1.6 mg/dL, PO4:1.3 mg/dL
   Imaging: KUB from [**7-20**]: prelim no signs of obstruction.
   CXR from [**7-20**]: Moderate-to-large bilateral pleural effusions and
   mild-to-moderate cardiomegaly unchanged. Heterogeneous consolidation in
   the right lung has improved slightly, still concerning for widespread
   pneumonia. ET tube and right internal jugular line are in standard
   placements and nasogastric tube ends in the mid stomach. No
   pneumothorax.
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 LIVER FUNCTION ABNORMALITIES
   Mr. [**Known lastname 8404**] is a 30 year old gentleman with biliary atresia s/p liver
   transplant (25 years ago) complicated by recurrent cirrhosis,
   hepato-pulmonary syndrome, porto-pulmonary hypertension,
   post-infectious GN, nephrotic syndrome and asthma admitted peritonitis
   s/p ex-lap now transferred to the MICU for hypoxic respiratory failure
   and increased work of breathing requiring intubation
   1) HYPOXIC RESPIRATORY Failue: Multiple reasons for worsening hypoxia
   and increased work of breathing in setting of chronic hypoxia with AA
   gradient.
   *Baseline low PaO2 of 70s likely due to impaired VQ mm due to known
   stable L pleural effusion and from atelectasis from ascites.  Also
   shunt from known hepatopulmonary syndrome.
   *Parenchymal opacities likely due to pulmonary edema, with CXR
   improved/stable and prelim neg cx from BAL. 3L fluid off yesterday.
   Resolution of alkalosis. ABG stable/with high PaO2 on low AC settings,
   will attempt PSV this AM, with potential extubation this PM. In order
   to optimize his respiratory status, we will continue CVVH with -150
   cc/hr.
   - Wean vent to PSV this AM, with potential extubation this PM
   - Continue CVVH today with ?HD in future, continue net negative. Follow
   up renal recs.
   - Wean sedation as tolerated, restraints as needed for now.
    2) GI DYSMOTILITY, with abdominal distention, TF residuals. KUB no
   evidence of obstruction, large amount of stool in colon, but large BM
   this AM.
   - Tube feeds restarted. Advance toward goal of 50 cc/hr as tolerated.
   Hold for residuals over 150
   - PRN Reglan
   - Titrate lactulose to [**12-28**] BM per day
   - KUB today
   3) CIRRHOSIS: Patient with history of biliary atresia s/p liver
   transplant (age 4) complicated by chronic rejection. Currently on
   transplant list. Liver following. [**Month (only) 8**] need PCP prophylaxis given
   patient with PCP on floor and his immunocompromised state on tacro.
   - Cont cipro prophylaxis.
   -Start clotrimazole per transplant.
   - Ask liver about PCP [**Name Initial (PRE) 2000**].
   - TacroFK level daily, with 0.5 mg daily for now. Coordinate
   administration/level check timing with pharmacy.
   - Cont lactulose, as per above.
   - Trend LFTs.
   4) RENAL FAILURE: Patient with history of post-strep GN now with acute
   on sub-acute renal failure likely secondary to ATN versus HRS type 1.
   CVVH started [**2135-7-15**]. Continue CVVH for now to optimize respiratory
   status in peri-extubation setting. Once fluid status is optimized, can
   likely go forward with intermittent HD.
   - Continue CVVH, with goal of  -150 cc/hr.
   - Continue Octreotide and Midodrine for HRS.
   - Trend chem-7 [**Name8 (MD) 77**] RN for CRT labs
   5) Thrombocytopenia: slowly trending down over past week, generally
   stable in past few days. Not likely due to HIT since he has been on
   heparin for >2 weeks (HIT is usually within 2-14 days) and he has
   remained stable despite being continued on heparin. Withhold HITT
   workup if remains stable.
   - Cont to trend plt
   6) Coagulopathy: Elevated PTT, stable now. No active signs of bleeding
   or thrombosis.
   - Cont to trend PTT
   7) ANEMIA: Patient with intermittent transfusion requirement, with last
   transfusion requirement on [**7-14**] (1 unit PRBC).  Likely has chronic
   anemia from liver and renal failure. Hct stable.
   - Trend hct Q24H, transfuse hct<21.
   9) FEN: hold TF for residuals > 150cc. TF restarted following BM.
   Advance as tolerated, as per above. ISS for glycemic control.
   10) ACCESS:
   -PICC Line - [**2135-7-15**] 07:41 PM
   -20 Gauge - [**2135-7-15**] 07:41 PM
   -Dialysis Catheter - [**2135-7-15**] 09:13 PM
   -Arterial Line - [**2135-7-15**] 10:11 PM
   11) PPx: PPI, pneumoboots, heparin.
   12) COMMUNICATION: his father, [**Name (NI) 8405**]
   12). DISPOSITION: ICU
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2135-7-21**] 04:00 AM 10 mL/hour
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2135-7-15**] 07:41 PM
   Dialysis Catheter - [**2135-7-15**] 09:13 PM
   Arterial Line - [**2135-7-15**] 10:11 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  father, [**Name (NI) 8405**]
   [**Name (NI) 156**] status: Full code
   Disposition:ICU

2135-07-21 11:11:00 Physician Attending Progress Note
Chief Complaint: resp failure, liver failure, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2135-7-18**] 05:00 PM
   Vancomycin - [**2135-7-19**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Calcium Gluconate (CRRT) - 2 grams/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   KCl (CRRT) - 4 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-7-21**] 08:22 AM
   Heparin Sodium (Prophylaxis) - [**2135-7-21**] 08:23 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-7-21**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.8
C (96.5
   HR: 77 (64 - 101) bpm
   BP: 147/86(111) {127/70(89) - 152/90(112)} mmHg
   RR: 20 (18 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 77.5 kg
   Height: 64 Inch
   CVP: 12 (8 - 16)mmHg
   Total In:
                                                                  4,177 mL
                                                                  3,379 mL
   PO:
   TF:
                                                                    278 mL
                                                                     72 mL
   IVF:
                                                                  3,798 mL
                                                                  3,287 mL
   Blood products:
   Total out:
                                                                  7,188 mL
                                                                  5,590 mL
   Urine:
                                                                    148 mL
                                                                    202 mL
   NG:
   Stool:
                                                                    300 mL
                                                                    700 mL
   Drains:
   Balance:
                                                                 -3,011 mL
                                                                 -2,211 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.44/41/159/26/4
   Ve: 7.5 L/min
   PaO2 / FiO2: 398
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   94 K/uL
   97 mg/dL
   1.5 mg/dL
   26 mEq/L
   3.4 mEq/L
   7 mg/dL
   102 mEq/L
   135 mEq/L
   25.8 %
   9.5 K/uL
        [image002.jpg]
                             [**2135-7-20**]  07:48 AM
                             [**2135-7-20**]  08:46 AM
                             [**2135-7-20**]  11:26 AM
                             [**2135-7-20**]  01:27 PM
                             [**2135-7-20**]  01:48 PM
                             [**2135-7-20**]  07:46 PM
                             [**2135-7-21**]  02:03 AM
                             [**2135-7-21**]  02:21 AM
                             [**2135-7-21**]  07:29 AM
                             [**2135-7-21**]  07:39 AM
   WBC
   9.8
   9.5
   Hct
   26.7
   25.8
   Plt
   93
   94
   Cr
   1.5
   1.5
   1.5
   TCO2
   24
   23
   25
   26
   29
   28
   29
   Glucose
   96
   110
   107
   97
   Other labs: PT / PTT / INR:17.5/60.7/1.6, ALT / AST:10/35, Alk Phos / T
   Bili:265/1.3, Differential-Neuts:86.6 %, Lymph:6.8 %, Mono:1.1 %,
   Eos:5.4 %, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:164 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.5 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 LIVER FUNCTION ABNORMALITIES
   30 yo m, s/p liver transplant (failed due to rejection) now with acute
   renal failure and respiratory failure.
   RESPIRATORY FAILURE -- multifactorial, including acute volume overload
   in setting of acute on chronic renal failure, on background of
   pulmonary HTN, portopulmonary (possible heptaopulmonary with shunt),
   and atelectasis due to abd distension.    Plan continue dialysis for
   net diuresis.  Continue mechanical ventilation, monitor ABG, SaO2,
   maintain SaO2 >90%.
   Hope for PSV perhaps this afternoon
 he failed sbt this AM but erhaps
   with more volume off and adequate sedation he will do OK on PSV closer
   to 15-20/5. Also meanwhile we will drop rate on AC to 20 and see how he
   holds given alalemia
   PULMONARY INFILTRATES suspect mostly acute volume- BAL negative stop
   empiric ABX
   RENAL FAILURE, ACUTE -- ATN versus HRS type1.  Rx Midodrine and
   Octreotide, Albumin challenge as per Liver and Renal but did not
   improve
Hepatology wants to continue.  Continue CVVH but may be able
   to switch to HD in next 24-48 hours.
   LIVER FAILURE -- currently listed for liver transplant.  Lactulose and
   Cipro for prophylaxis. Prograf
 level low yesterday speak with
   pharmacy about adjusting.
   NUTRITIONAL SUPPORT -- initiated TF
 initially high residuals improved
   but now worse again. Check KUB serial abd exams may need post pyloric
   dophoff
   ICU Care
   Nutrition:  NovaSource Renal (Full) - [**2135-7-21**] 04:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2135-7-15**] 07:41 PM
   Dialysis Catheter - [**2135-7-15**] 09:13 PM
   Arterial Line - [**2135-7-15**] 10:11 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  with family- father and sister
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2135-07-22 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 8404**] is a 30 year old gentleman with biliary
   atresia s/p liver transplant (25 years ago) complicated by recurrent
   cirrhosis, hepato-pulmonary syndrome, porto-pulmonary hypertension,
   post-infectious GN, nephrotic syndrome and asthma admitted peritonitis
   s/p ex-lap now transferred to the MICU for hypoxic respiratory failure
   and increased work of breathing requiring intubation, now with improved
   respiratory status and post extubation yesterday.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2135-7-21**] 03:11 PM
   -Tolerated PSV 10/5 this AM; was successfully extubated in the
   afternoon, with stable SpO2>/=95%
   -Started on Clotrimazole troche per transplant recs
   -Renal recs: to cont CVVH but to start intermittent HD in 24-48 hours
   -Per liver, octreotide and midodrine d/ced. Recheck tacro level in AM
   and administer 0.5 mg tacro after checking level. In following days,
   adjustments to daily dose will be made pending level from previous AM,
   titrating to blood level of [**2-28**].
   -Per ID no bactrim prophylxis
   -Repleted phos and magnesium.
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-7-19**] 08:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-7-21**] 08:22 AM
   Heparin Sodium (Prophylaxis) - [**2135-7-22**] 12:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-7-22**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 112 (73 - 120) bpm
   BP: 145/86(109) {127/76(97) - 154/93(118)} mmHg
   RR: 33 (14 - 33) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70 kg (admission): 77.5 kg
   Height: 64 Inch
    CVP: 9 (8 - 15)mmHg
             Total In:
                                                                  7,386 mL
                                                                  2,292 mL
   PO:
             TF:
                                                                     78 mL
   IVF:
                                                                  7,269 mL
                                                                  2,292 mL
   Blood products:
   Total out:
                                                                 11,705 mL
                                                                  3,176 mL
   Urine:
                                                                    362 mL
                                                                    170 mL
   NG:
   Stool:
                                                                  1,200 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                 -4,319 mL
                                                                   -884 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode:
   Vt (Spontaneous):
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: 7.45/38/89.[**Numeric Identifier 299**]/25/2 (on PSV)
   Ve: 5.6 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: Drowsy but oriented to person and place
   (
hospital
   Cardiovascular: RRR, no m/r/g
   Respiratory / Chest: CTAB no w/r/r
   Abdominal: Continues to be moderately distended/tense in this thin man.
   BS hypoechoic.
   Extremities: Warm, well-perfused, 2+ DP, trace edema.
   Labs / Radiology
   118 K/uL
   8.1 g/dL
   113 mg/dL
   1.4 mg/dL
   25 mEq/L
   4.0 mEq/L
   5 mg/dL
   102 mEq/L
   136 mEq/L
   25.9 %
   11.7 K/uL
        [image002.jpg]
                             [**2135-7-21**]  07:29 AM
                             [**2135-7-21**]  07:39 AM
                             [**2135-7-21**]  12:27 PM
                             [**2135-7-21**]  01:10 PM
                             [**2135-7-21**]  02:47 PM
                             [**2135-7-21**]  05:10 PM
                             [**2135-7-21**]  08:00 PM
                             [**2135-7-21**]  08:02 PM
                             [**2135-7-22**]  02:00 AM
                             [**2135-7-22**]  02:20 AM
   WBC
   10.7
   11.7
   Hct
   26.8
   25.9
   Plt
   103
   118
   Cr
   1.5
   1.4
   1.4
   1.4
   TCO2
   29
   28
   28
   27
   29
   27
   Glucose
   97
   121
   132
   113
   Other labs: PT / PTT / INR:17.5/46.7/1.6, ALT / AST:13/40, Alk Phos / T
   Bili:290/1.3, Differential-Neuts:86.6 %, Lymph:6.8 %, Mono:1.1 %,
   Eos:5.4 %, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:196 IU/L,
   Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:1.2 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 LIVER FUNCTION ABNORMALITIES
   Mr. [**Known lastname 8404**] is a 30 year old gentleman with biliary atresia s/p liver
   transplant (25 years ago) complicated by recurrent cirrhosis,
   hepato-pulmonary syndrome, porto-pulmonary hypertension,
   post-infectious GN, nephrotic syndrome and asthma admitted peritonitis
   s/p ex-lap now transferred to the MICU for hypoxic respiratory failure
   and increased work of breathing requiring intubation, now with improved
   respiratory status and post extubation yesterday but with low grade
   fever and inc WBC today.
   # HYPOXIC RESPIRATORY FAILURE: Multiple reasons for worsening hypoxia
   and increased work of breathing at admission, in setting of chronic
   hypoxia with AA gradient.
    *Baseline low PaO2 of 70s likely due to impaired VQ mm due to known
   stable L pleural effusion and from atelectasis from ascites.  Also
   shunt from known hepatopulmonary syndrome.
   *Parenchymal opacities on past imaging likely due to pulmonary edema,
   with CXR improved/stable and prelim neg cx from BAL. -150 cc/hr off
   yesterday. Successful extubation with stable SpO2 yesterday.
   *New low grade fever and leukocytosis yesterday. Ddx includes new
   pneumonia vs. SBP vs. other infection (?line). Will panculture, CXR,
   and IR paracentesis today.
   *We continued CVVH yesterday in order to optimize his respiratory
   status, but now that he appears to have had resolution of much of his
   peripheral edema, we can likely D/C CVVH today and transition to
   intermittent HD.
   -CXR this AM.
   -BCx from each line, UCx, sputum cx, stool C. diff toxin.
   -Diagnostic IR paracentesis.
   # FEVER AND LEUKOCYTOSIS: As per above, ddx includes new pneumonia vs.
   SBP vs. other infection (?line).
   -As per above, panculture, CXR, and IR paracentesis today.
   # GI DYSMOTILITY: With baseline mild-mod abdominal distention s/p
   ex-lap, now with frequency loose stool. Will check C diff, as per
   above, in setting of fever, though loose stool is likely due to
   aggressive bowel regimen.  Currently NPO after removal of NGT with
   extubation; we can advance diet slowly as tolerated.
   - C. diff toxin, as per above.
   - Advance diet slowly as tolerated.
   -Titrate lactulose to [**12-28**] BM per day.
   # CIRRHOSIS: Patient with history of biliary atresia s/p liver
   transplant (age 4) complicated by chronic rejection. Currently on
   transplant list. Liver following. Per ID, no need for PCP [**Name Initial (PRE) 2000**].
    - Cont cipro prophylaxis and clotimazole troche.
   - TacroFK level daily, with 0.5 mg daily this AM and goal blood level
   [**2-28**].
   - Cont lactulose, as per above.
   - Trend LFTs.
   # RENAL FAILURE: Patient with history of post-strep GN now with acute
   on sub-acute renal failure likely secondary to ATN versus HRS type 1.
   CVVH started [**2135-7-15**]. Fluid status is now optimized, so we can D/C CVVH
   and transition to intermittent HD. D/C'd HRS regimen.
   - As per above, D/C CVVH today. Transition to HD.
   #  THROMBOCYTOPENIA: Slowly trending down over past week, nowe
   generally stable to improved. Not likely due to HIT since he has been
   on heparin for >2 weeks (HIT is usually within 2-14 days) and plts have
   remained stable despite being continued on heparin. Withhold HIT workup
   if remains stable.
   - Cont to trend plts
    #  COAGULOPATHY: Elevated PTT in the setting of cirrhotic
   coagulopathy, stable now. No active signs of bleeding or thrombosis.
    - Cont to trend PTT
   #  ANEMIA: Patient with intermittent transfusion requirement, with last
   transfusion requirement on [**7-14**] (1 unit PRBC).  Likely has chronic
   anemia from liver and renal failure. Hct stable.
   - Trend hct Q24H, transfuse hct<21.
   # FEN: Restart PO as tolerated, as per above. ISS for glycemic control.
   #  ACCESS:
   -PICC Line - [**2135-7-15**] 07:41 PM
   -Dialysis Catheter - [**2135-7-15**] 09:13 PM
   -Arterial Line - [**2135-7-15**] 10:11 PM. D/C today when CVVH stopped.
   # PPx: PPI, pneumoboots, heparin.
   # COMMUNICATION: his father, [**Name (NI) 8405**]
   # DISPOSITION: C/o to floor pending above this afternoon (24H after
   extubation) pending above if he remains stable.
   ICU Care
   Nutrition: Food today as tolerated.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2135-7-15**] 07:41 PM
   Dialysis Catheter - [**2135-7-15**] 09:13 PM
   Arterial Line - [**2135-7-15**] 10:11 PM. D/C today when CVVH stopped.
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   Communication:  his father, [**Name (NI) 8405**]
   [**Name (NI) 156**] status: Full code
   Disposition: C/o to floor pending above this afternoon (24H after
   extubation) pending above if he remains stable.

2135-07-22 10:11:00 Physician Attending Progress Note
Chief Complaint: resp failure, ARF liver failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2135-7-21**] 03:11 PM
   Successful extubation
   prograf dosing switched to AM
   octreotide midrodrine stopped
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2135-7-22**] 08:37 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-7-22**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 106 (77 - 120) bpm
   BP: 144/87(272) {127/76(97) - 154/93(272)} mmHg
   RR: 36 (14 - 36) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70 kg (admission): 77.5 kg
   Height: 64 Inch
   CVP: 9 (9 - 15)mmHg
   Total In:
                                                                  7,386 mL
                                                                  3,046 mL
   PO:
                                                                     30 mL
   TF:
                                                                     78 mL
   IVF:
                                                                  7,269 mL
                                                                  3,016 mL
   Blood products:
   Total out:
                                                                 11,705 mL
                                                                  4,621 mL
   Urine:
                                                                    362 mL
                                                                    200 mL
   NG:
   Stool:
                                                                  1,200 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                 -4,319 mL
                                                                 -1,575 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 472 (472 - 472) mL
   PS : 10 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: 7.51/31/62/22/1
   Ve: 5.6 L/min
   PaO2 / FiO2: 155
   Physical Examination
   Gen: lying in bedm alert conversant
   HEENT: pupils symmetric at 2mm and reactive
   CV: tachy RR
   Chest: fair air movement no wheeze
   Abd: soft but distended +BS
   Ext: trace edema
   Neuro: conversant, asking to go back to [**Hospital Ward Name **] 10, does have sig restless
   leg like movements
   Labs / Radiology
   8.1 g/dL
   118 K/uL
   121 mg/dL
   1.5 mg/dL
   22 mEq/L
   3.8 mEq/L
   5 mg/dL
   104 mEq/L
   138 mEq/L
   25.9 %
   11.7 K/uL
        [image002.jpg]
                             [**2135-7-21**]  12:27 PM
                             [**2135-7-21**]  01:10 PM
                             [**2135-7-21**]  02:47 PM
                             [**2135-7-21**]  05:10 PM
                             [**2135-7-21**]  08:00 PM
                             [**2135-7-21**]  08:02 PM
                             [**2135-7-22**]  02:00 AM
                             [**2135-7-22**]  02:20 AM
                             [**2135-7-22**]  07:56 AM
                             [**2135-7-22**]  08:14 AM
   WBC
   10.7
   11.7
   Hct
   26.8
   25.9
   Plt
   103
   118
   Cr
   1.4
   1.4
   1.4
   1.5
   TCO2
   28
   28
   27
   29
   27
   26
   Glucose
   121
   132
   113
   121
   Other labs: PT / PTT / INR:17.5/46.7/1.6, ALT / AST:13/40, Alk Phos / T
   Bili:290/1.3, Differential-Neuts:86.6 %, Lymph:6.8 %, Mono:1.1 %,
   Eos:5.4 %, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:196 IU/L,
   Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:1.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 LIVER FUNCTION ABNORMALITIES
   ARF
   30 yo m, s/p liver transplant (failed due to rejection) now with acute
   renal failure and respiratory failure.
   RESPIRATORY FAILURE -- multifactorial, with predominant factor acute
   volume overload in setting of acute on chronic renal failure, on
   background of pulmonary HTN, portopulmonary / heptaopulmonary with
   shunt, and atelectasis due to abd distension.    Aggressively diuresed
   and successfully extubated yesterday. We will continue to monitor
   closely.
   RENAL FAILURE, ACUTE -- ATN versus HRS type1
 did very well with CVVH
   but should be able to switch to HD now that he is extubated.
   Low Grade temps on CVVH and rising WBC
 pan culture all lines, pull A
   line and cx tip, check CXR for VAP, stool for c diff.  diagnostic para
   by Rads, holding empiric ABX for now while work up ongoing
   LIVER FAILURE -- currently listed for liver transplant.  Lactulose and
   Cipro for prophylaxis. Prograf
 level pending goal [**2-28**].
   NUTRITIONAL SUPPORT
 restart po diet
   Remaining issues as noted by housestaff
   ICU Care
   Nutrition: start pos
   Glycemic Control:
   Lines:
   PICC Line - [**2135-7-15**] 07:41 PM
   Dialysis Catheter - [**2135-7-15**] 09:13 PM
   Arterial Line - [**2135-7-15**] 10:11 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer:PPPI
   Communication:  with father
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 31

2135-07-23 08:00:00 Physician Resident Progress Note
Chief Complaint: Mr. [**Known lastname 8404**] is a 30 year old gentleman with biliary
   atresia s/p liver transplant (25 years ago) complicated by recurrent
   cirrhosis, hepato-pulmonary syndrome, porto-pulmonary hypertension,
   post-infectious GN, nephrotic syndrome and asthma admitted peritonitis
   s/p ex-lap now transferred to the MICU for hypoxic respiratory failure
   and increased work of breathing requiring intubation, now with improved
   respiratory status and post extubation yesterday but with low grade
   fever and inc WBC today.
   24 Hour Events:
 BLOOD CULTURED - At [**2135-7-22**] 11:21 AM
   HD quinton and left picc line
 ARTERIAL LINE - STOP [**2135-7-22**] 12:00 PM
 URINE CULTURE - At [**2135-7-22**] 02:03 PM
 STOOL CULTURE - At [**2135-7-22**] 04:30 PM
   cdiff
 PARACENTESIS - At [**2135-7-22**] 05:35 PM
   T 99.8 overnight while on CVVH, so pancultured, C diff toxin
   -IR paracentesis ordered for today.
   -CVVH D/c'd today. Will transition to intermittent HD.
   -CXR with stable LLL atelectasis with layering of a moderate L pleural
   effusion. Improved right multifocal airspace opacities with pulmonary
   edema which is now mild.
   -Liver recs starting abx (vanc/Zosyn) after paracentesis, continuing
   with Prograf 0.5 mg daily.
   -Renal recs:_____
   Went for IR guided paracentesis, were not able to i.d enough fluid for
   analysis.
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2135-7-22**] 10:30 PM
   Vancomycin - [**2135-7-22**] 11:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2135-7-22**] 08:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-7-23**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 91 (82 - 106) bpm
   BP: 146/95(104) {119/71(82) - 153/102(111)} mmHg
   RR: 31 (26 - 40) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 77.5 kg
   Height: 64 Inch
                  Total In:
                                                                  3,750 mL
                                                                     60 mL
   PO:
                                                                     80 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  3,670 mL
   Blood products:
   Total out:
                                                                  5,733 mL
                                                                    120 mL
   Urine:
                                                                    385 mL
                                                                    120 mL
   NG:
                                                                    125 mL
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                 -1,983 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.51/31/62/22/1
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   113 K/uL
   7.7 g/dL
   86 mg/dL
   2.7 mg/dL
   22 mEq/L
   3.3 mEq/L
   16 mg/dL
   107 mEq/L
   140 mEq/L
   23.8 %
   9.7 K/uL
        [image002.jpg]
                             [**2135-7-21**]  01:10 PM
                             [**2135-7-21**]  02:47 PM
                             [**2135-7-21**]  05:10 PM
                             [**2135-7-21**]  08:00 PM
                             [**2135-7-21**]  08:02 PM
                             [**2135-7-22**]  02:00 AM
                             [**2135-7-22**]  02:20 AM
                             [**2135-7-22**]  07:56 AM
                             [**2135-7-22**]  08:14 AM
                             [**2135-7-23**]  04:49 AM
   WBC
   10.7
   11.7
   9.7
   Hct
   26.8
   25.9
   23.8
   Plt
   103
   118
   113
   Cr
   1.4
   1.4
   1.4
   1.5
   2.7
   TCO2
   28
   27
   29
   27
   26
   Glucose
   121
   132
   113
   121
   86
   Other labs: PT / PTT / INR:19.3/41.2/1.8, ALT / AST:12/36, Alk Phos / T
   Bili:250/1.3, Differential-Neuts:84.4 %, Lymph:7.9 %, Mono:4.3 %,
   Eos:3.0 %, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:231 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Imaging: [**7-22**] abd us
   Minimal ascitic fluid identified between loops of small bowel that
   would not
   be amenable to paracentesis. No paracentesis performed.
   [**7-22**] CXR, none today
   Stable left lower lobe atelectasis with layering of a moderate
   left pleural effusion. Improved right multifocal airspace opacities
   with
   pulmonary edema which is now mild. Stable cardiomegaly.
   Microbiology: cdiff culture negative
   Urine cx pending
   blood Cx, wound Cx pending from y.d
   radial right aline
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 LIVER FUNCTION ABNORMALITIES
   Mr. [**Known lastname 8404**] is a 30 year old gentleman with biliary atresia s/p liver
   transplant (25 years ago) complicated by recurrent cirrhosis,
   hepato-pulmonary syndrome, porto-pulmonary hypertension,
   post-infectious GN, nephrotic syndrome and asthma admitted peritonitis
   s/p ex-lap now transferred to the MICU for hypoxic respiratory failure
   and increased work of breathing requiring intubation, now with improved
   respiratory status and post extubation yesterday but with low grade
   fever and inc WBC today.
   # HYPOXIC RESPIRATORY FAILURE: Multiple reasons for worsening hypoxia
   and increased work of breathing at admission, in setting of chronic
   hypoxia with AA gradient.
    *Baseline low PaO2 of 70s likely due to impaired VQ mm due to known
   stable L pleural effusion and from atelectasis from ascites.  Also
   shunt from known hepatopulmonary syndrome.
   *Parenchymal opacities on past imaging likely due to pulmonary edema,
   with CXR improved/stable and prelim neg cx from BAL. -150 cc/hr off
   yesterday. Successful extubation with stable SpO2 yesterday.
   *New low grade fever and leukocytosis yesterday. Ddx includes new
   pneumonia vs. SBP vs. other infection (?line). Will panculture, CXR,
   and IR paracentesis today.
   *We continued CVVH yesterday in order to optimize his respiratory
   status, but now that he appears to have had resolution of much of his
   peripheral edema, we can likely D/C CVVH today and transition to
   intermittent HD.
   -CXR this AM.
   -BCx from each line, UCx, sputum cx, stool C. diff toxin.
   -Diagnostic IR paracentesis.
   # FEVER AND LEUKOCYTOSIS: As per above, ddx includes new pneumonia vs.
   SBP vs. other infection (?line).
   -As per above, panculture, CXR, and IR paracentesis today.
   # GI DYSMOTILITY: With baseline mild-mod abdominal distention s/p
   ex-lap, now with frequency loose stool. Will check C diff, as per
   above, in setting of fever, though loose stool is likely due to
   aggressive bowel regimen.  Currently NPO after removal of NGT with
   extubation; we can advance diet slowly as tolerated.
   - C. diff toxin, as per above.
   - Advance diet slowly as tolerated.
   -Titrate lactulose to [**12-28**] BM per day.
   # CIRRHOSIS: Patient with history of biliary atresia s/p liver
   transplant (age 4) complicated by chronic rejection. Currently on
   transplant list. Liver following. Per ID, no need for PCP [**Name Initial (PRE) 2000**].
    - Cont cipro prophylaxis and clotimazole troche.
   - TacroFK level daily, with 0.5 mg daily this AM and goal blood level
   [**2-28**].
   - Cont lactulose, as per above.
   - Trend LFTs.
   # RENAL FAILURE: Patient with history of post-strep GN now with acute
   on sub-acute renal failure likely secondary to ATN versus HRS type 1.
   CVVH started [**2135-7-15**]. Fluid status is now optimized, so we can D/C CVVH
   and transition to intermittent HD. D/C'd HRS regimen.
   - As per above, D/C CVVH today. Transition to HD.
   #  THROMBOCYTOPENIA: Slowly trending down over past week, nowe
   generally stable to improved. Not likely due to HIT since he has been
   on heparin for >2 weeks (HIT is usually within 2-14 days) and plts have
   remained stable despite being continued on heparin. Withhold HIT workup
   if remains stable.
   - Cont to trend plts
    #  COAGULOPATHY: Elevated PTT in the setting of cirrhotic
   coagulopathy, stable now. No active signs of bleeding or thrombosis.
    - Cont to trend PTT
   #  ANEMIA: Patient with intermittent transfusion requirement, with last
   transfusion requirement on [**7-14**] (1 unit PRBC).  Likely has chronic
   anemia from liver and renal failure. Hct stable.
   - Trend hct Q24H, transfuse hct<21.
   # FEN: Restart PO as tolerated, as per above. ISS for glycemic control.
   #  ACCESS:
   -PICC Line - [**2135-7-15**] 07:41 PM
   -Dialysis Catheter - [**2135-7-15**] 09:13 PM
   -Arterial Line - [**2135-7-15**] 10:11 PM. D/C today when CVVH stopped.
   # PPx: PPI, pneumoboots, heparin.
   # COMMUNICATION: his father, [**Name (NI) 8405**]
   # DISPOSITION: C/o to floor pending above this afternoon (24H after
   extubation) pending above if he remains stable.
   ICU Care
   Nutrition: Food today as tolerated.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2135-7-15**] 07:41 PM
   Dialysis Catheter - [**2135-7-15**] 09:13 PM
   Arterial Line - [**2135-7-15**] 10:11 PM. D/C today when CVVH stopped.
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   Communication:  his father, [**Name (NI) 8405**]
   [**Name (NI) 156**] status: Full code
   Disposition: C/o to floor pending above this afternoon (24H after
   extubation) pending above if he remains stable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2135-7-15**] 07:41 PM
   Dialysis Catheter - [**2135-7-15**] 09:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2135-07-23 10:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   30 yo man with biliary atresia, liver transplant at age 4, chronic
   rejection, cirrhosis, pulm HTN.  Originally admitted with peritonitis
   s/p ex lap.  Was on floor and transferred to MICU with respiratory
   distress, fluid overloaded in setting of ARF.   Was intubated, dialyzed
   and now subsequently extubated.   Now with fevers, getting
   empirically.
   24 Hour Events:
 BLOOD CULTURED - At [**2135-7-22**] 11:21 AM
   HD quinton and left picc line
 ARTERIAL LINE - STOP [**2135-7-22**] 12:00 PM
 URINE CULTURE - At [**2135-7-22**] 02:03 PM
 STOOL CULTURE - At [**2135-7-22**] 04:30 PM
   cdiff
 PARACENTESIS - At [**2135-7-22**] 05:35 PM
   done in ultrasound
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2135-7-22**] 10:30 PM
   Vancomycin - [**2135-7-22**] 11:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   SSI
   s/q heparin
   senna
   bisacodyl
   lactulose
   atrovent
   tacrolimus
   pantropazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2135-7-23**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.3
   HR: 93 (82 - 106) bpm
   BP: 146/91(102) {119/71(82) - 156/102(111)} mmHg
   RR: 38 (26 - 42) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 77.5 kg
   Height: 64 Inch
                  Total In:
                                                                  3,750 mL
                                                                     60 mL
   PO:
                                                                     80 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  3,670 mL
   Blood products:
   Total out:
                                                                  5,733 mL
                                                                    200 mL
   Urine:
                                                                    385 mL
                                                                    200 mL
   NG:
                                                                    125 mL
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                 -1,983 mL
                                                                   -140 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   113 K/uL
   86 mg/dL
   2.7 mg/dL
   22 mEq/L
   3.3 mEq/L
   16 mg/dL
   107 mEq/L
   140 mEq/L
   23.8 %
   9.7 K/uL
        [image002.jpg]
                             [**2135-7-21**]  01:10 PM
                             [**2135-7-21**]  02:47 PM
                             [**2135-7-21**]  05:10 PM
                             [**2135-7-21**]  08:00 PM
                             [**2135-7-21**]  08:02 PM
                             [**2135-7-22**]  02:00 AM
                             [**2135-7-22**]  02:20 AM
                             [**2135-7-22**]  07:56 AM
                             [**2135-7-22**]  08:14 AM
                             [**2135-7-23**]  04:49 AM
   WBC
   10.7
   11.7
   9.7
   Hct
   26.8
   25.9
   23.8
   Plt
   103
   118
   113
   Cr
   1.4
   1.4
   1.4
   1.5
   2.7
   TCO2
   28
   27
   29
   27
   26
   Glucose
   121
   132
   113
   121
   86
   Other labs: PT / PTT / INR:19.3/41.2/1.8, ALT / AST:12/36, Alk Phos / T
   Bili:250/1.3, Differential-Neuts:84.4 %, Lymph:7.9 %, Mono:4.3 %,
   Eos:3.0 %, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:231 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 LIVER FUNCTION ABNORMALITIES
   Respiratory distress/fluid overload:  improved with HD  Breathing well.
   ARF:  no on intermittent HD.
   Cirrhosis:  On lactulose.  On FK506, daily levels
   anemia:  to transfuse 1U
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2135-7-15**] 07:41 PM
   Dialysis Catheter - [**2135-7-15**] 09:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Call out to floor after HD.
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   Correction:  Patient is not critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2135-7-23**] 12:21 ------

2135-07-24 07:24:00 Physician Resident Progress Note
Chief Complaint: 30 M with biliary atresia s/p liver transplant (25
   years ago) complicated by recurrent cirrhosis, hepato-pulmonary
   syndrome, porto-pulmonary hypertension, post-infectious GN, nephrotic
   syndrome and asthma admitted peritonitis s/p ex-lap now transferred to
   the MICU for hypoxic respiratory failure and increased work of
   breathing requiring intubation, now with improved respiratory status
   and post extubation yesterday but with low grade fever and inc WBC.
   24 Hour Events:
   - PICC d/c'ed
   - HD yesterday, one unit of pRBC
   - Called out yesterday, [**Hospital Ward Name 383**] 10, concern about tachypnea, CXR stable
   from previous
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-7-23**] 05:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2135-7-24**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2135-7-24**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-7-24**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 83 (83 - 98) bpm
   BP: 144/97(108) {122/69(81) - 160/105(117)} mmHg
   RR: 31 (30 - 42) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 77.5 kg
   Height: 64 Inch
             Total In:
                                                                    830 mL
                                                                    220 mL
   PO:
                                                                    180 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    300 mL
                                                                    100 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    330 mL
                                                                    100 mL
   Urine:
                                                                    330 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    500 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.58/33/62/29/8
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   105 K/uL
   8.8 g/dL
   91 mg/dL
   2.3 mg/dL
   29 mEq/L
   3.2 mEq/L
   15 mg/dL
   103 mEq/L
   140 mEq/L
   26.9 %
   10.7 K/uL
        [image002.jpg]
                             [**2135-7-21**]  05:10 PM
                             [**2135-7-21**]  08:00 PM
                             [**2135-7-21**]  08:02 PM
                             [**2135-7-22**]  02:00 AM
                             [**2135-7-22**]  02:20 AM
                             [**2135-7-22**]  07:56 AM
                             [**2135-7-22**]  08:14 AM
                             [**2135-7-23**]  04:49 AM
                             [**2135-7-23**]  05:27 PM
                             [**2135-7-24**]  03:22 AM
   WBC
   11.7
   9.7
   10.7
   Hct
   25.9
   23.8
   26.9
   Plt
   118
   113
   105
   Cr
   1.4
   1.4
   1.5
   2.7
   2.3
   TCO2
   27
   29
   27
   26
   32
   Glucose
   132
   113
   121
   86
   91
   Other labs: PT / PTT / INR:18.8/36.0/1.7, ALT / AST:12/39, Alk Phos / T
   Bili:240/2.4, Differential-Neuts:84.4 %, Lymph:7.9 %, Mono:4.3 %,
   Eos:3.0 %, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:261 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR [**7-23**] stable [**Hospital1 **]-basilar consolidations and pulmonary edema.
   stable moderate left pleural effusion. stable right central line in
   distal SVC.
   Microbiology: Tip cx pending
   Blood cx pending
   C.diff negative
   Stool cx pending
   Urine cx yeast >100,000
   Assessment and Plan
   Mr. [**Known lastname 8404**] is a 30 year old gentleman with biliary atresia s/p liver
   transplant (25 years ago) complicated by recurrent cirrhosis,
   hepato-pulmonary syndrome, porto-pulmonary hypertension,
   post-infectious GN, nephrotic syndrome and asthma admitted peritonitis
   s/p ex-lap now transferred to the MICU for hypoxic respiratory failure
   and increased work of breathing requiring intubation, now with improved
   respiratory status and post extubation yesterday but with low grade
   fever and inc WBC.
   .
   # HYPOXIC RESPIRATORY FAILURE: Multiple reasons for worsening hypoxia
   and increased work of breathing at admission, in setting of chronic
   hypoxia with AA gradient.
   *Baseline low PaO2 of 70s likely due to impaired VQ mm due to known
   stable L pleural effusion and from atelectasis from ascites.  Also
   shunt from known hepatopulmonary syndrome.
   *Extubated, doing well without respiratory requirement.
   - follow clinical status
   - intermittent HD
   .
   # Leukocytosis/Fever - low grade fevers, inadequate fluid for analysis
   on para, empiric treatment for SBP.
   - vanc, pip/tazo, vanc dosing with HD (day [**12-30**])
   - f/u cultures
   - tylenol under 2g for temp >101
   .
   # GI dysmotility: BM on lactulose, taking poor p.o per family chronic
   problem, requires encouragement to eat.
   - Cont lactulose - [**12-28**] BM per day, encourage PO
   .
   # Cirrhosis: history of biliary atresia s/p liver transplant (age 4)
   complicated by chronic rejection. Currently on transplant list. Liver
   following. Per ID, no need for PCP [**Name Initial (PRE) 2000**].
   - pip/tazo (covers SBP), clotimazole troche.
   - TacroFK level daily, liver to give dosing recs, goal blood level [**2-28**].
   - Cont lactulose, as per above.
   - Trend LFTs.
   .
   # RENAL FAILURE: Patient with history of post-strep GN now with acute
   on sub-acute renal failure likely secondary to ATN versus HRS type 1.
   CVVH started [**2135-7-15**]. Fluid status is now optimized, so we can D/C CVVH
   and transition to intermittent HD. D/C'd HRS regimen.
   - Intermittent HD, renal following.
   .
   # Thrombocytopenia: Slowly trending down over past week, now stable to
   improved. Not likely due to HIT since he has been on heparin for >2
   weeks (HIT is usually within 2-14 days) and plts have remained stable
   despite being continued on heparin. Remains stable.
   - Cont to trend plts
   .
   #  COAGULOPATHY: Elevated PTT in the setting of cirrhotic coagulopathy,
   stable now. No active signs of bleeding or thrombosis.
   - Cont to trend PTT
   .
   #  ANEMIA: Patient with intermittent transfusion requirement.  Likely
   has chronic anemia from liver and renal failure. Hct 23.8 from 25.6 .
   Per I.D 1 unit PRBC with HD.
   - Active Type and Cross
   - Trend hct Q24H, transfuse hct<21.
   ICU Care
   Nutrition:
   Comments: regular diet, low sodium
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2135-7-15**] 09:13 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2135-07-24 11:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   30 yo women with cirrhosis, awaiting transplant. ARF - had HD
   yesterday, but did not have fluid removed.
   24 Hour Events:
 PICC LINE - STOP [**2135-7-23**] 12:30 PM
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-7-23**] 05:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2135-7-24**] 09:08 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2135-7-24**] 03:30 AM
   Other medications:
   hep s/q
   SSI
   chlorhex
   senns
   bisacodyl
   chlormasatrol
   colace
   prograff
   protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Dialysis
   Heme / Lymph: Anemia
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Suicidal
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2135-7-24**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 89 (83 - 98) bpm
   BP: 142/94(105) {122/69(81) - 160/105(117)} mmHg
   RR: 28 (28 - 42) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 77.5 kg
   Height: 64 Inch
             Total In:
                                                                    830 mL
                                                                    520 mL
   PO:
                                                                    180 mL
                                                                    320 mL
   TF:
   IVF:
                                                                    300 mL
                                                                    200 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    330 mL
                                                                    130 mL
   Urine:
                                                                    330 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    500 mL
                                                                    390 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.58/33/62/29/8
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l, Diminished: left)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   105 K/uL
   91 mg/dL
   2.3 mg/dL
   29 mEq/L
   3.2 mEq/L
   15 mg/dL
   103 mEq/L
   140 mEq/L
   26.9 %
   10.7 K/uL
        [image002.jpg]
                             [**2135-7-21**]  05:10 PM
                             [**2135-7-21**]  08:00 PM
                             [**2135-7-21**]  08:02 PM
                             [**2135-7-22**]  02:00 AM
                             [**2135-7-22**]  02:20 AM
                             [**2135-7-22**]  07:56 AM
                             [**2135-7-22**]  08:14 AM
                             [**2135-7-23**]  04:49 AM
                             [**2135-7-23**]  05:27 PM
                             [**2135-7-24**]  03:22 AM
   WBC
   11.7
   9.7
   10.7
   Hct
   25.9
   23.8
   26.9
   Plt
   118
   113
   105
   Cr
   1.4
   1.4
   1.5
   2.7
   2.3
   TCO2
   27
   29
   27
   26
   32
   Glucose
   132
   113
   121
   86
   91
   Other labs: PT / PTT / INR:18.8/36.0/1.7, ALT / AST:12/39, Alk Phos / T
   Bili:240/2.4, Differential-Neuts:84.4 %, Lymph:7.9 %, Mono:4.3 %,
   Eos:3.0 %, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:261 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 LIVER FUNCTION ABNORMALITIES
   hypoxemic respiratory failure:  HD with removal of fluid today.
   leukocytosis/fever:  On vanco/zosyn
   cirrhosis:  lactulose
   ARF:  on HD, making some urine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2135-7-15**] 09:13 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes